2141-01-12 09:18:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Lactate remains elevated to 7
   Producing ~!30cc/urine per hour
   No worsening in abdominal bullous rash
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-1-11**] 10:49 PM
 MULTI LUMEN - START [**2141-1-11**] 11:47 PM
 EKG - At [**2141-1-12**] 12:09 AM
 ARTERIAL LINE - START [**2141-1-12**] 01:04 AM
 SPUTUM CULTURE - At [**2141-1-12**] 04:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-12**] 05:19 AM
   Vancomycin - [**2141-1-12**] 05:36 AM
   Meropenem - [**2141-1-12**] 06:00 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2141-1-12**] 05:36 AM
   Pantoprazole (Protonix) - [**2141-1-12**] 06:05 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-12**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 96 (92 - 102) bpm
   BP: 115/40(60) {103/37(56) - 141/68(89)} mmHg
   RR: 36 (15 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 108 kg
   CVP: 12 (11 - 13)mmHg
   Mixed Venous O2% Sat: 76 - 76
                                Total In:
                                                                     33 mL
                                                                  9,157 mL
   PO:
                                TF:
   IVF:
                                                                     33 mL
                                                                  3,782 mL
   Blood products:
   375 mL
   Total out:
                                                                      0 mL
                                                                    409 mL
   Urine:
   364 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                  8,748 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 450) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, RR >35, No Spon Resp
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.30/52/75/23/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: intuabted, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on R)
   Abdominal: No(t) Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Coalescent vesicular rash on abd. Erythematous rash on L
   breast
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   61 K/uL
   64 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   100 mEq/L
   136 mEq/L
   23.9 %
   2.7 K/uL
        [image002.jpg]
                             [**2141-1-12**]  12:07 AM
                             [**2141-1-12**]  01:17 AM
                             [**2141-1-12**]  03:25 AM
                             [**2141-1-12**]  04:34 AM
                             [**2141-1-12**]  06:33 AM
   WBC
   4.2
   2.7
   Hct
   28.0
   24.7
   23.9
   Plt
   154
   61
   Cr
   0.7
   0.8
   TropT
   <0.01
   TCO2
   26
   25
   Glucose
   87
   64
   Other labs: PT / PTT / INR:34.7/49.0/3.5, CK / CKMB /
   Troponin-T:317/19/<0.01, Alk Phos / T Bili:/10.5,
   Differential-Neuts:65.0 %, Band:4.0 %, Lymph:14.0 %, Mono:7.0 %,
   Eos:2.0 %, D-dimer:7793 ng/mL, Fibrinogen:171 mg/dL, Lactic Acid:7.3
   mmol/L, LDH:269 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ASCITES
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
 HEPATITIS, CHRONIC VIRAL
 HYPOGLYCEMIA
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   1. Septic Shock/GPC bacteremia/abdominal cellulitis
   -Continue to cover broadly: clinda/vanc/[**Last Name (un) **]/flagyl/levo. Tamilfu. D/C
   po vanc, ACV, flagyl.  Toxic shock remains a possibility.
   -Bladder pressure rechecked and found to be 14
   -Appreciate transplant surgery input --> at this point the rash is not
   rapidly progressing in a nec fasc manner
   -CVP at 14, urine oupit sluggish but adequate
   -Cont to trend lactate
   2. Respiratory failure
   -Cont ARDSnet ventilator stretegy
   -Does appear to have multifocal pneumonia as well- could be consistent
   with know GPC bacteremia
   -F/U flu screen
   -Large R pleural effusion  - will hold off on thoracentesis given
   thoracentesis
   3. Oliguria
   -Cr slowly trending up
   4. Trauma
   -C-collar off.  APrreciate trauma input
   5. Cirrhosis:
   -Tbili of 10. Abd U/S with Dopplers
   -INR in 3s
   6. Anemia: Has hx of recent melena.  Transfusing 2u pRBCs.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-11**] 11:48 PM
   Arterial Line - [**2141-1-12**] 01:04 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2141-01-13 08:03:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain, nausea/vomiting/diarrhea then transfer
   from OSH
   This is a 40 YO F with cirrhosis [**1-24**] hep C, COPD, ?DM, depression who
   presents with abdominal pain, nausea, vomiting, possible melena 1 week
   ago, breast pain and a rash.
   24 Hour Events:
 ULTRASOUND - At [**2141-1-12**] 10:00 AM
   Abdominal US
 TRANSTHORACIC ECHO - At [**2141-1-12**] 11:45 AM
   - ID: Acyclovir, meropenem, linezolid. Send viral and aerobic cultres,
   Gram stain of vesicular eruption.
   - Surgery - not impressed by nec. fac. - follow and they will biopsy if
   worsens.
   - Worsened SBP and MAP - started norepinephrine, vasopressin.
   Phenylephrine ordered in case needed.
   - CVP dropped from 16 to 9, but difficult to follow closely given
   previous value and SVV around 5%. CO 11 earlier and 9 later (from
   Vigileo). Therefore no fluids.
   - Blood gases improved with increased O2 over the afternoon and evening
   (partly PEEP)
   - Vesicular eruption stable in size.
   - Urine dark and around 20-30 cc/hr in the evening ...
   - Lactate  9.1 to 8.7 to 8.9 - unfortunately stable
   - Intravesicular pressure 12 in a.m. then 16 in p.m.
   - ARDS prot: 300 x 35 w/ FiO2 .7 and PEEP 15 cm H2O - improved sats
   with increased PEEP.
   - US:
   1. Findings compatible with cirrhosis and moderate amount of ascites.
   2. Normal hepatic vasculature without evidence of clot.
   3. Right pleural effusion.
   - Echo: Normal global and regional biventricular systolic function. No
   clinically-significant valvular disease. Moderate pulmonary
   hypertension.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-12**] 07:40 AM
   Metronidazole - [**2141-1-12**] 09:00 AM
   Clindamycin - [**2141-1-12**] 05:00 PM
   Acyclovir - [**2141-1-13**] 12:00 AM
   Meropenem - [**2141-1-13**] 01:00 AM
   Linezolid - [**2141-1-13**] 05:36 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2141-1-12**] 12:08 PM
   Dextrose 50% - [**2141-1-12**] 02:20 PM
   Pantoprazole (Protonix) - [**2141-1-12**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-13**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 99 (92 - 103) bpm
   BP: 108/53(70) {100/37(60) - 129/66(82)} mmHg
   RR: 6 (6 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 108 kg
   Height: 63 Inch
    CVP: 14 (9 - 16)mmHg
   Bladder pressure: 14 (12 - 14) mmHg
                                Total In:
                                                                 12,539 mL
                                                                  1,336 mL
   PO:
                                TF:
   IVF:
                                                                  6,064 mL
                                                                    986 mL
   Blood products:
                                                                  1,450 mL
                                                                    350 mL
   Total out:
                                                                  1,514 mL
                                                                    310 mL
   Urine:
                                                                    919 mL
                                                                    210 mL
   NG:
                                                                    550 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 11,025 mL
                                                                  1,026 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 95%
   ABG: 7.32/45/80.[**Numeric Identifier 500**]/23/-3
   Ve: 10 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   57 K/uL
   9.2 g/dL
   94 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   23 mg/dL
   94 mEq/L
   126 mEq/L
   26.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2141-1-12**]  04:34 AM
                             [**2141-1-12**]  06:33 AM
                             [**2141-1-12**]  01:15 PM
                             [**2141-1-12**]  01:39 PM
                             [**2141-1-12**]  05:02 PM
                             [**2141-1-12**]  07:32 PM
                             [**2141-1-12**]  09:42 PM
                             [**2141-1-13**]  02:47 AM
                             [**2141-1-13**]  03:14 AM
                             [**2141-1-13**]  05:01 AM
   WBC
   2.7
   6.7
   13.0
   8.7
   Hct
   23.9
   30.7
   28.5
   26.7
   Plt
   61
   94
   76
   57
   Cr
   0.8
   0.6
   TCO2
   25
   23
   23
   23
   24
   24
   Glucose
   64
   47
   94
   Other labs: PT / PTT / INR:40.8/50.8/4.3, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:33/119, Alk Phos / T Bili:56/13.6,
   Amylase / Lipase:[**10-29**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:171
   mg/dL, Lactic Acid:7.4 mmol/L, LDH:768 IU/L, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: See micro.
   Imaging: CT head
   1. No acute intracranial abnormality.
   2. Paranasal sinus disease.
   Microbiology: E. coli in urine
   Cocci in pairs and chains in blood culture.
   [**2141-1-12**] 10:02 pm SWAB
         Source: lower abdomen - left. Vesicular eruption..
      GRAM STAIN (Final [**2141-1-13**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   DFA/swabs still pending.
   [**2141-1-11**] 6:05 pm BLOOD CULTURE      LINE #2.
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
      Aerobic Bottle Gram Stain (Final [**2141-1-12**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      Anaerobic Bottle Gram Stain (Final [**2141-1-12**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   ECG: No new.
   Assessment and Plan
 ALTERATION IN NUTRITION
 ASCITES
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
 HEPATITIS, CHRONIC VIRAL
 HYPOGLYCEMIA
   This is a 40 YO F with cirrhosis [**1-24**] hep C, COPD, ?DM, depression who
   presents with abdominal pain, nausea, vomiting, possible melena 1 week
   ago, breast pain and a rash.
   # Abdominal pain: DDX: SBP, cholangitis, mesenteric ischemia, colitis,
   gastroenteritis, rash, atypical chest pain, worsening ascities,
   vasculitis, less likely splenomegaly or UTI.  Given patients history of
   N/V/D slightly favor infectious etiology, although concern for SBP is
   high.  Elevated lactate certainly concernign for mesenteric ischemia
   although lactate can be elevated by cirrhosis and may be falsely
   elevated.  Her pain may also be due to her rash (discussed below).
   -F/u final read of CT ab
   -F/u Tx [**Doctor First Name **] recs
   -Vanc/[**Last Name (un) 1540**]/Levo/flagyl/PO vanc for possible bacterial infectious
   etiology and tamiflu and acyclovir for posible viral etiology.
   -No evidence of cholangitis at this time on CT, continue to monitor.
   -D/w hepatology and transplant when and how to attempt para.  Given
   concern for cellulitis and small amount of ascities will be difficult.
   -ROMI
   -F/U urine Cx
   -Consult ID: Abx and anti-virals. Would she be candidate for IVIG
   (toxim mediated disease).
   # Respiratory failure: Likely multifactorial in the setting of COPD
   exacerbation, volume overload with anasarca and possible infectious
   process.  B/l infiltrates on CXR, Likely not in florid heart failure,
   PaO2:FiO2 = 110.  Meets definition for ARDS.
   -Ventilate with ARDSnet protocol.
   -Treat for CAP with pneumonia
   -Rule out influenza - treat until negative given ILI, COPD and ICU.
   -Given BP will hold on diurese, but likely will need to remove volume
   -consider thoracentesis
   -wean vent as tolerated - RISBI in am.
   # SIRS/Sepsis: Patient meets SIRS criteria with tachycardia and
   tachypnea (WBC low, but chronic).  Sources for infection include
   pneumonia, SBP, colitis, less likely meningitis.  Also less likely
   toxic shock syndrome.  Will classify and treat patient currently as
   septic shock given her low BP.  Continue broad spectrum antibiotics as
   above.  Consider broadening viral or fungal coverage if not improving.
   -Wean pressors as tolerated.
   -Continue to search for an infection
   -F/u blood Cx
   -F/u Urine Cx
   -Discuss with teams consulted best way to sample ascities.
   -Continue broad spectrum anti-microbials: Vanc/levo/flagyl/tamiflu
   -MAP > 60
   -FLuid bolus and pressors as needed
   -UOP > 30cc/hr
   -CVP > 12
   -Will make sure patient does not have a tampon in place.
   # Rash: DDX: cellulitis, vasculitis, viral rash, zoster, cuteneous
   cryoglobulinemia, possible nec fascitiis, (although no crepitus on exam
   and no gas in subQ tissue on CT)alt may be DIC.  Lastly this may be
   sequelea of inflected or self inflicted harm and some of rash may be
   attributable to trauma.  This is possible given location of some of the
   lesions (breast) and Fx ribs seen on CT.  Given patients leukopenia and
   neutropenia, am concerned for potential disseminated zoster.  Patient
   never tested for cryos and possible her ILI preceeding her ED visit was
   part of cryos.  Still given other concerns, need to cover now for
   possible bacterial cellulis.
   -Vancomycin
   -Derm consult for skin Bx
   -Cryo level in am
   -HSV 1&2 serologies
   -VSV serolgies.
   -consider starting acyclovir
   -trend DIC labs q2 overnight.
   # Cirrhosis: Secondary to Hep C, possible also made worse by EtOH.
   Followed by liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaled patient in
   ED.  Her liver synthetic function is decreased based on INR.  T.bili
   elevated as well.  [**Month (only) 11**] be decompensation of already poor liver.
   Currently CP score of C. MELD 27.
   -F/u hepatology recs.
   -Treat other conditions overnight
   -Hold nadalol, spironolactone, lasix and lactulose overnight.
   -Pending OG tube residuals may re-start.
   # Positive U/A: Potential etiology of above problems.
   -F/u Cx
   -Foley in
   -ABX per above
   # Right pleural effusion: Likely related to anasarca.  Other
   possibilities are hemothorax.  Will hold on [**Female First Name (un) 231**] given coagulopathy.
   # Pancytopenia: Counts are stably low.  Likely related to hep C.
   Patient reports being HIV negative multiple time in OMR but no HIV
   documented.  Hct is slightly lower then prior, history of melena 1 week
   ago.  Given rash, also concern for DIC or hemolytic anemia (given rise
   in bili).  Currently not in DIC based on labs.  Will trend.
   -Trend CBC
   -monitor for DIC
   -hapto
   -retic
   -Hold heparin in setting of low plts
   # Rib Fractures/trauma: No history of trauma.  Concerns are for falls
   or trauma while intoxicated or abuse.  Ecchymosis seen on exam
   (shoulder and back).  Possible neck trauma, unable to assess pain.
   Trauma was consulted in ED.  Nothing to do for now.
   -Pain control with fentanyl.
   -F/U trauma recs
   -Obtain further history when able
   -[**Location (un) 239**]-J
   # DM/Hypoglycmia: Patient with unclear history of diabetes.  Per
   previous d/c sum there was some concern of serepticious insulin
   injection.  C-peptide however was high at that time.  Patients Hb A1c
   was 5.  No clear evidence DM at this time.
   -ISS
   # History of melena: Unclear history recently.  Has had upper GI bleed
   in past.
   -Guaiac stools
   -PPI IV BID
   -trend hct
   -Tx [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 25
   # Elevated intra-abdominal pressure:  Elevated to 40.  Concern for
   abdominal compartment syndrome.
   -Monitor for now.  D/W transplant [**Doctor First Name **] significnace and possible need
   for abdominal fasciotomy.
   # Oliguria: Pre-renal, [**1-24**] abdomainal compartment syndrome, ATN.
   -Send urine lytes
   -bolus NS
   -monitor ab pressures.
   # Bilious OG tube drainage: No clear obstruction on CT.  Contrast
   passed to colon.  Paitent S/p cholecystectomy.
   -intermittent suction overnight.  Trial of OG in am.
   # FEN: IVF, replete electrolytes (patient with low K, secondary to
   diarrhea?), OG tube in, nutrition consult in am.
   # Prophylaxis: pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-12**] 01:04 AM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-01-13 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 down to 0.5
   Lactate remains 7
   RUQ u/s with moderate ascites
   24 Hour Events:
 ULTRASOUND - At [**2141-1-12**] 10:00 AM
   Abdominal US
 TRANSTHORACIC ECHO - At [**2141-1-12**] 11:45 AM
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-12**] 07:40 AM
   Metronidazole - [**2141-1-12**] 09:00 AM
   Clindamycin - [**2141-1-12**] 05:00 PM
   Linezolid - [**2141-1-13**] 05:36 AM
   Acyclovir - [**2141-1-13**] 07:20 AM
   Meropenem - [**2141-1-13**] 07:56 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2141-1-12**] 12:08 PM
   Dextrose 50% - [**2141-1-12**] 02:20 PM
   Pantoprazole (Protonix) - [**2141-1-13**] 07:56 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-13**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (92 - 103) bpm
   BP: 106/58(74) {100/37(60) - 128/66(82)} mmHg
   RR: 31 (6 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 108 kg
   Height: 63 Inch
   CVP: 14 (9 - 16)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
                               Total In:
                                                                 12,539 mL
                                                                  1,591 mL
   PO:
                               TF:
   IVF:
                                                                  6,064 mL
                                                                  1,241 mL
   Blood products:
                                                                  1,450 mL
                                                                    350 mL
   Total out:
                                                                  1,514 mL
                                                                    365 mL
   Urine:
                                                                    919 mL
                                                                    265 mL
   NG:
                                                                    550 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 11,025 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/45/80.[**Numeric Identifier 500**]/22/-3
   Ve: 9.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Non-tender, Distended, Obese, woody abd wall and b/l thigh
   edema
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   57 K/uL
   127 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.1 mEq/L
   23 mg/dL
   94 mEq/L
   126 mEq/L
   26.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2141-1-12**]  06:33 AM
                             [**2141-1-12**]  01:15 PM
                             [**2141-1-12**]  01:39 PM
                             [**2141-1-12**]  05:02 PM
                             [**2141-1-12**]  07:32 PM
                             [**2141-1-12**]  09:42 PM
                             [**2141-1-13**]  02:47 AM
                             [**2141-1-13**]  03:14 AM
                             [**2141-1-13**]  05:01 AM
                             [**2141-1-13**]  06:09 AM
   WBC
   2.7
   6.7
   13.0
   8.7
   Hct
   23.9
   30.7
   28.5
   26.7
   Plt
   61
   94
   76
   57
   Cr
   0.8
   0.6
   0.8
   TCO2
   23
   23
   23
   24
   24
   Glucose
   64
   47
   94
   127
   Other labs: PT / PTT / INR:40.8/50.8/4.3, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:33/119, Alk Phos / T Bili:56/13.6,
   Amylase / Lipase:[**10-29**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:171
   mg/dL, Lactic Acid:7.4 mmol/L, LDH:768 IU/L, Ca++:7.7 mg/dL, Mg++:2.2
   mg/dL, PO4:4.8 mg/dL
   Microbiology: Urine cx: E.coli
   Blood cxs ([**1-11**]): GPCs in pairs and chains not yet speciated
   Assessment and Plan
 ALTERATION IN NUTRITION
 ASCITES
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
 HEPATITIS, CHRONIC VIRAL
 HYPOGLYCEMIA
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   1. Septic Shock/GPC bacteremia/E. coli in urine/abdominal cellulitis
   -Appreciate ID input: linezolid/[**Last Name (un) **]/flagyl/levo. Cont ACV pending DFA
   of skin lesion
   -urine output continues to be  sluggish but adequate - Cr stable
   -Lactate remains elevated
   -Will try to to small needle sampling of ascites
   2. Respiratory failure
   -Cont low TV stretegy.  Decrease TV to 30
   -No [**Female First Name (un) 231**] for now given coagulopathy, effusion looks smaller on CXR
   today
   -Moderately elevated est PA pressure to 39
   3. Oliguria
   -Cr stable, trend closely
   4. Cirrhosis:
   -Tbili and INR continue to rise  --> coould be responsible for
   inability to clear lactate
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-12**] 01:04 AM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2141-01-14 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2141-1-13**] 12:01 PM
 ARTERIAL LINE - STOP [**2141-1-13**] 04:20 PM
 ARTERIAL LINE - START [**2141-1-13**] 05:06 PM
   - Hepatology Recs:
   - ID Recs: Would recommend switching to Ceftriaxone 2g IV Q24Hrs,
   Stopping IVIG, Stop Linezolid/Meropenem, Tap ascites/Effusion. Continue
   Acyclovir until ro/zoster, Daily BCx
   - RR decreased from 35 to 32, ABG on this setting
   - Diagnositc Para: No fluid to tap. Soft tissue edema.
   - Urine Lytes/OSM: Na<10, Osm 330. Plasma Na 126. Patient on
   Vasopressin which is thought to be contributing.
   - Family: Sister [**Name (NI) 142**] ([**Telephone/Fax (1) 10537**] was updated. Plans to come up
   tomorrow. Sister is only family.
   - DFA negative for HSV, VZV, Viral CX pending.
   - Blood Cultures: Strep Pneumo.
   - Penicillins -> tongue swelling. Sulfa Drugs -> Rash, Nausea per
   sisters report.
   - TF started. Had some residuals so they were held. Lactulose 30mg [**Hospital1 **]
   started.
   - PM labs: INR improved to 3.6, Platelets down to 38, Na stable at 127.
   HCT stable at 127.
   - Aline replaced.
   - Spoke with [**Doctor First Name 2966**], decided to continue Meropenem for now given
   improving lactate and severe reaction to penicillin and rash to sulfa
   drugs in the past. If we need to switch he would like to get Allergy
   involved for desensitization. Linezolid stopped per ID recs. IVIG
   stopped.
   - HCT to 23.8 transfused two units.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-12**] 07:40 AM
   Metronidazole - [**2141-1-12**] 09:00 AM
   Clindamycin - [**2141-1-12**] 05:00 PM
   Linezolid - [**2141-1-13**] 05:03 PM
   Meropenem - [**2141-1-13**] 11:57 PM
   Acyclovir - [**2141-1-14**] 01:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2141-1-13**] 06:46 PM
   Pantoprazole (Protonix) - [**2141-1-13**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-14**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 89 (86 - 103) bpm
   BP: 107/50(70) {82/45(65) - 116/88(90)} mmHg
   RR: 33 (8 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
    CVP: 16 (7 - 16)mmHg
   Bladder pressure: 16 (11 - 16) mmHg
                                Total In:
                                                                  3,406 mL
                                                                  1,075 mL
   PO:
                                TF:
                                                                     45 mL
   IVF:
                                                                  2,491 mL
                                                                    375 mL
   Blood products:
                                                                    700 mL
                                                                    700 mL
   Total out:
                                                                  1,450 mL
                                                                    530 mL
   Urine:
                                                                  1,075 mL
                                                                    530 mL
   NG:
                                                                    375 mL
   Stool:
   Drains:
   Balance:
                                                                  1,956 mL
                                                                    545 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/45/66/27/1
   Ve: 8.9 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General: intubated, sedated, withdraws to pain.
   HEENT: Sclera mildly icteric, intubated.
   Neck: supple, JVP not elevated, no LAD
   Lungs: decreased lung sounds on right.  Left with rhochi and occasional
   wheeze
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Obese, distended, moderatly tense, +bowels sounds. Distention
   increased today.
   GU: foley
   Ext: anasarca.
   Skin: Rash on LLQ, multiple confluescent white 5-10mm papules on an
   erythematous base, which are non blanching.  Diffuse petechial rash on
   chest, non blanching.  Nectrotic region on left breast and enlarged
   bullae. Vesicles on stomach resolving but have been lanced for culture.
   Chronic venous stasus changes on lower extremities b/l.
   Labs / Radiology
   33 K/uL
   9.7 g/dL
   111 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   31 mg/dL
   97 mEq/L
   129 mEq/L
   28.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2141-1-13**]  02:47 AM
                             [**2141-1-13**]  03:14 AM
                             [**2141-1-13**]  05:01 AM
                             [**2141-1-13**]  06:09 AM
                             [**2141-1-13**]  03:20 PM
                             [**2141-1-13**]  05:27 PM
                             [**2141-1-13**]  11:14 PM
                             [**2141-1-13**]  11:48 PM
                             [**2141-1-14**]  03:30 AM
                             [**2141-1-14**]  04:29 AM
   WBC
   8.7
   5.8
   6.8
   6.2
   Hct
   26.7
   25.3
   23.9
   28.1
   Plt
   57
   38
   32
   33
   Cr
   0.6
   0.8
   1.0
   1.0
   TCO2
   24
   24
   28
   27
   29
   Glucose
   94
   127
   105
   111
   Other labs: PT / PTT / INR:31.3/52.0/3.1, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:40/135, Alk Phos / T Bili:58/12.9,
   Amylase / Lipase:[**11-8**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:170
   mg/dL, Lactic Acid:3.9 mmol/L, LDH:714 IU/L, Ca++:7.7 mg/dL, Mg++:2.4
   mg/dL, PO4:4.6 mg/dL
   [**1-13**] CXR: There is interval improvement of the left lower lobe
   atelectasis with still present some degree of left lower lobe collapse.
   Bilateral pleural effusions are unchanged. The patient is currently in
   pulmonary edema, mild-to-moderate. There is no evidence of
   pneumothorax.
[**2141-1-12**] 10:02 pm SWAB
      Source: lower abdomen - left. Vesicular eruption..
   GRAM STAIN (Final [**2141-1-13**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   WOUND CULTURE (Preliminary):
[**2141-1-12**] 5:35 pm SWAB      Source: vesicles on lower left abdomen.
   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary):
   VARICELLA-ZOSTER CULTURE (Preliminary):
[**2141-1-12**] 1:20 pm DIRECT ANTIGEN TEST FOR VARICELLA-ZOSTER VIRUS
   DIRECT ANTIGEN TEST FOR VARICELLA-ZOSTER VIRUS (Final [**2141-1-13**]):
      Negative for Varicella zoster by immunofluorescence.
[**2141-1-12**] BLOOD CULTURES NO GROWTH TO DATE x3
[**2141-1-12**] VARICELLA ZOSTER IGG NEGATIVE
[**2141-1-12**] 3:56 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2141-1-12**]):
      [**10-16**] PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS , IN SHORT
      CHAINS.
[**2141-1-12**] INFLUENZA NEGATIVE
[**2141-1-11**] 6:05 pm BLOOD CULTURE      LINE #2.
   Blood Culture, Routine (Preliminary):
      STREPTOCOCCUS PNEUMONIAE.
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 289-7164T
         ([**2141-1-11**]).
   Aerobic Bottle Gram Stain (Final [**2141-1-12**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2141-1-12**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
[**2141-1-11**] URINE E. COLI
[**2141-1-11**] BLOOD CULTURE
Blood Culture, Routine (Preliminary):
      STREPTOCOCCUS PNEUMONIAE.    PRELIMINARY SENSITIVITY.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STREPTOCOCCUS PNEUMONIAE
                             |
ERYTHROMYCIN----------       R
LEVOFLOXACIN----------       S
PENICILLIN G----------       S
TETRACYCLINE----------       R
TRIMETHOPRIM/SULFA----       R
VANCOMYCIN------------       S
   Aerobic Bottle Gram Stain (Final [**2141-1-12**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2141-1-12**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible [**Month/Day (2) 10530**] 1 week ago,
   breast pain and a rash, broken ribs.
   # Sepsis/Strep pneumo Bacteremia
   Currently with continued hypotension necessitating pressor requirement,
   in a high cardiac output state and also with organ failure (renal and
   respiratory compromise). Likely related with strep pneumo bacteremia.
   Other sources to consider include empyema, SBT. Also with E. coli in
   urine but no in blood.
   - Continue meropenem (stopped linezolid [**1-13**], stopped
   vanc/levo/cipro/flagyl/PO vanc [**1-12**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12
   - Continue to follow ID recommendations; appreciate their input
   # Abdominal pain, Ascites
   Stable. Lactate downtrending, with continued abdominal pain on exam.
   Concern for mesenteric ischemia, peritonitis initially, although
   lactate resolving at this time (part of elevation may also have been
   secondary to liver failure, although seems unlikely that levels would
   have peaked so high solely due to this). SBT possible given ascites,
   although unlikely to present in this manner. CT showed colitis,
   negative for intrabdominal abscess. RUQ US ascites and cirrhosis, no
   venous thrombosis, s/p cholecystectomy. Unlikely toxin mediated at this
   time.
   - Discontinue IVIG
   - Continue antibiotics as above
   - Defer diagnostic paracentesis at this time
 no pocket of ascites
   seen on bedside ultrasound and coagulopathy
   - Consider follow US/CT if change in clinical status
   - Monitor vesicular pressure [**Hospital1 **] concern for abdominal compartment
   syndrome
   # Respiratory Failure, Pleural Effusion
   Meets criteria for ARDS although mechanism and pathology likely related
   with underlying pneumonia/infection. Concern for empyema, less likely
   hemothorax although under consideration given coagulopathy.
   - Continue ARDS low tidal volume and low rate ventilation given fairly
   large empyema/ascites; brought down tidal volume and rate; increased
   FiO2
   # Respiratory Failure
   Contributions by possible infection and large empyema versus effusion.
   In addition septic respiratory distress likely. Respiratory status
   improving overnight. Now off toxic O2 at 50%. ABGs actually improving
   at present. Edema not likely playing a role at this point with low SVV,
   however CVP is lower. Given good CO and SVV will hold off on fluids for
   now.
   -Ventilate with ARDSnet protocol.
   -Treat for CAP with pneumonia
   - Continue to rethink fluid status
 no fluid or diuresis for now.
   - Thoracentesis when feasible (see above)
   - Wean vent as tolerated
 wean O2 to 40% if possible, maintain ARDSnet
   for now.
   - Given incomplete expiration (COPD contributing) reduce rate and
   possibly minute ventilation slightly to prevent autopeep.
   - RSBI today
   - SBT unlikely today given sedation and respiratory distress
   # Rash
   Vesicular with PMNs only so far. Either sterile bacterial, perhaps GAS,
   s/p antibiotic, or viral VZV. Await DFA
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaled patient in ED.  Her liver
   synthetic function is decreased based on INR.  T.bili elevated as
   well.  [**Month (only) 11**] be decompensation of already poor liver.  Currently CP score
   of C. MELD 27. Alpha-1-anti-trypsin WNLs (checked given early COPD).
   -F/u hepatology recs.
   -Hold nadalol, spironolactone, lasix and lactulose for now
   # Positive U/A
   E.coli Gram negative, therefore not blood culture organism. Covered by
   meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   multifocal potential zoster (although unlikely) need to retest with
   consent.
   - D/w family/HCP HIV test
   # Rib Fractures/trauma
   As yet unclear etiology. Ecchymoses on exam (shoulder and back).
   Possible neck trauma, unable to assess pain.  Trauma was consulted in
   ED.  Nothing to do for now.
   -Pain control with fentanyl.
   -Obtain further history when able
   # DM/Hypoglycmia
   Hypoglycemic events and past elevated insulin and C-peptide, although
   not strikingly high. Patients Hb A1c was 5. Consider insulinoma and
   other DDx today
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Crit fall/History of [**Name (NI) **]
   Unclear history recently.  Has had upper GI bleed in past.
   -Guaiac stools
   -PPI IV BID
   -trend hct
   -Tx [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 25
   # Acute Kidney Injury
   Likely very hypoperfused with low urine output. Quite likely will
   develop ATN, depending on sub-acute course and pressures. UOP slightly
   improved this a.m. at time > 30 cc/hr.
   - Calculate FeUrea
   # Bilious OG tube drainage
   No clear obstruction on CT, but likely ileus now with sedation.
   Contrast passed to colon. Suctioning less material now.
   - Turn off suction and trial OG
   # Coagulopathy
   Likely secondary to liver failure. Unlikely response to vitamin K and
   FFP would not get us far.
   - Follow
   # FEN: IVF, replete electrolytes (patient with low K, secondary to
   diarrhea?), OG tube in, nutrition consult in am.
   # Prophylaxis: pneumoboots
   # Access:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-12**] 01:04 AM
   20 Gauge - [**2141-1-13**] 03:57 AM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-01-14 11:21:00 Physician Attending Progress Note
Chief Complaint: 40 yr woman with Hep C cirrhosis. Abdom pain x 3d last
   week. Came to ED and found to be septic with Strept Pneumo presumed
   from PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2141-1-13**] 12:01 PM
 ARTERIAL LINE - STOP [**2141-1-13**] 04:20 PM
 ARTERIAL LINE - START [**2141-1-13**] 05:06 PM
   DFA neg for HSV and Varicella
   INR downtrending
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-12**] 07:40 AM
   Metronidazole - [**2141-1-12**] 09:00 AM
   Clindamycin - [**2141-1-12**] 05:00 PM
   Linezolid - [**2141-1-13**] 05:03 PM
   Meropenem - [**2141-1-14**] 07:50 AM
   Acyclovir - [**2141-1-14**] 08:05 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-1-14**] 07:50 AM
   Propofol - [**2141-1-14**] 08:12 AM
   Other medications:
   RISS, hydrocort, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-14**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 92 (86 - 103) bpm
   BP: 132/72(95) {82/45(65) - 132/88(95)} mmHg
   RR: 22 (22 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
   CVP: 8 (8 - 16)mmHg
   Bladder pressure: 16 (11 - 16) mmHg
                              Total In:
                                                                  3,406 mL
                                                                  1,544 mL
   PO:
                              TF:
                                                                     45 mL
   IVF:
                                                                  2,491 mL
                                                                    784 mL
   Blood products:
                                                                    700 mL
                                                                    700 mL
   Total out:
                                                                  1,450 mL
                                                                  1,020 mL
   Urine:
                                                                  1,075 mL
                                                                    820 mL
   NG:
                                                                    375 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,956 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/45/66/27/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: nl), (Left radial pulse: nl),
   (Right DP pulse: nl), (Left DP pulse: nl)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: on right,
   Rhonchorous: )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  increasing bullae
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   33 K/uL
   111 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   31 mg/dL
   97 mEq/L
   129 mEq/L
   28.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2141-1-13**]  02:47 AM
                             [**2141-1-13**]  03:14 AM
                             [**2141-1-13**]  05:01 AM
                             [**2141-1-13**]  06:09 AM
                             [**2141-1-13**]  03:20 PM
                             [**2141-1-13**]  05:27 PM
                             [**2141-1-13**]  11:14 PM
                             [**2141-1-13**]  11:48 PM
                             [**2141-1-14**]  03:30 AM
                             [**2141-1-14**]  04:29 AM
   WBC
   8.7
   5.8
   6.8
   6.2
   Hct
   26.7
   25.3
   23.9
   28.1
   Plt
   57
   38
   32
   33
   Cr
   0.6
   0.8
   1.0
   1.0
   TCO2
   24
   24
   28
   27
   29
   Glucose
   94
   127
   105
   111
   Other labs: PT / PTT / INR:31.3/52.0/3.1, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:40/135, Alk Phos / T Bili:58/12.9,
   Amylase / Lipase:[**11-8**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:170
   mg/dL, Lactic Acid:3.9 mmol/L, LDH:714 IU/L, Ca++:7.7 mg/dL, Mg++:2.4
   mg/dL, PO4:4.6 mg/dL
   Imaging: CXR -
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible [**Month/Day (2) 10530**] 1 week ago,
   breast pain and a rash, broken ribs.
   # Sepsis/Strep pneumo Bacteremia
   Currently with continued hypotension necessitating pressor requirement,
   in a high cardiac output state and also with organ failure (renal and
   respiratory compromise). Likely related with strep pneumo bacteremia.
   Other sources to consider include empyema, SBT. Also with E. coli in
   urine but no in blood.
   - Continue meropenem (stopped linezolid [**1-13**], stopped
   vanc/levo/cipro/flagyl/PO vanc [**1-12**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12
   - Continue to follow ID recommendations; appreciate their input
   # Abdominal pain, Ascites
   Stable. Lactate downtrending, with continued abdominal pain on exam.
   Concern for mesenteric ischemia, peritonitis initially, although
   lactate resolving at this time (part of elevation may also have been
   secondary to liver failure, although seems unlikely that levels would
   have peaked so high solely due to this). SBT possible given ascites,
   although unlikely to present in this manner. CT showed colitis,
   negative for intrabdominal abscess. RUQ US ascites and cirrhosis, no
   venous thrombosis, s/p cholecystectomy. Unlikely toxin mediated at this
   time.
   - Discontinue IVIG
   - Continue antibiotics as above
   - Defer diagnostic paracentesis at this time
 no pocket of ascites
   seen on bedside ultrasound and coagulopathy
   - Consider follow US/CT if change in clinical status
   - Monitor vesicular pressure [**Hospital1 **] concern for abdominal compartment
   syndrome
   # Respiratory Failure, Pleural Effusion
   Meets criteria for ARDS although mechanism and pathology likely related
   with underlying pneumonia/infection. Concern for empyema, less likely
   hemothorax although under consideration given coagulopathy.
   - Continue ARDS low tidal volume and low rate ventilation given fairly
   large empyema/ascites; brought down tidal volume and rate; increased
   FiO2
   # Respiratory Failure
   Contributions by possible infection and large empyema versus effusion.
   In addition septic respiratory distress likely. Respiratory status
   improving overnight. Now off toxic O2 at 50%. ABGs actually improving
   at present. Edema not likely playing a role at this point with low SVV,
   however CVP is lower. Given good CO and SVV will hold off on fluids for
   now.
   -Ventilate with ARDSnet protocol.
   -Treat for CAP with pneumonia
   - Continue to rethink fluid status
 no fluid or diuresis for now.
   - Thoracentesis when feasible (see above)
   - Wean vent as tolerated
 wean O2 to 40% if possible, maintain ARDSnet
   for now.
   - Given incomplete expiration (COPD contributing) reduce rate and
   possibly minute ventilation slightly to prevent autopeep.
   - RSBI today
   - SBT unlikely today given sedation and respiratory distress
   # Rash
   Vesicular with PMNs only so far. Either sterile bacterial, perhaps GAS,
   s/p antibiotic, or viral VZV. Await DFA
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaled patient in ED.  Her liver
   synthetic function is decreased based on INR.  T.bili elevated as
   well.  [**Month (only) 11**] be decompensation of already poor liver.  Currently CP score
   of C. MELD 27. Alpha-1-anti-trypsin WNLs (checked given early COPD).
   -F/u hepatology recs.
   -Hold nadalol, spironolactone, lasix and lactulose for now
   # Positive U/A
   E.coli Gram negative, therefore not blood culture organism. Covered by
   meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   multifocal potential zoster (although unlikely) need to retest with
   consent.
   - D/w family/HCP HIV test
   # Rib Fractures/trauma
   As yet unclear etiology. Ecchymoses on exam (shoulder and back).
   Possible neck trauma, unable to assess pain.  Trauma was consulted in
   ED.  Nothing to do for now.
   -Pain control with fentanyl.
   -Obtain further history when able
   # DM/Hypoglycmia
   Hypoglycemic events and past elevated insulin and C-peptide, although
   not strikingly high. Patients Hb A1c was 5. Consider insulinoma and
   other DDx today
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Crit fall/History of [**Name (NI) **]
   Unclear history recently.  Has had upper GI bleed in past.
   -Guaiac stools
   -PPI IV BID
   -trend hct
   -Tx [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 25
   # Acute Kidney Injury
   Likely very hypoperfused with low urine output. Quite likely will
   develop ATN, depending on sub-acute course and pressures. UOP slightly
   improved this a.m. at time > 30 cc/hr.
   - Calculate FeUrea
   # Bilious OG tube drainage
   No clear obstruction on CT, but likely ileus now with sedation.
   Contrast passed to colon. Suctioning less material now.
   - Turn off suction and trial OG
   # Coagulopathy
   Likely secondary to liver failure. Unlikely response to vitamin K and
   FFP would not get us far.
   - Follow
   # FEN: IVF, replete electrolytes (patient with low K, secondary to
   diarrhea?), OG tube in, nutrition consult in am.
   # Prophylaxis: pneumoboots
   # Access:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-12**] 01:04 AM
   20 Gauge - [**2141-1-13**] 03:57 AM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-01-15 09:52:00 Physician Attending Progress Note
Chief Complaint: 40 yr woman with abdom pain, sepsis, Hep C
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
    Unclear if rash is Zoster per Derm - continue Acyclovir
   Small pericardial effusion
   Blood in GI Aspirate this AM
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2141-1-12**] 05:00 PM
   Linezolid - [**2141-1-13**] 05:03 PM
   Meropenem - [**2141-1-15**] 08:01 AM
   Acyclovir - [**2141-1-15**] 08:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-1-14**] 08:09 PM
   Fentanyl - [**2141-1-15**] 03:42 AM
   Other medications:
   RISS, colace, hydrocor, lactulose, thiamine, reglan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-15**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96
   HR: 77 (77 - 107) bpm
   BP: 112/54(75) {89/38(55) - 132/72(95)} mmHg
   RR: 21 (0 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
   CVP: 278 (13 - 296)mmHg
   Total In:
                                                                  2,105 mL
                                                                    764 mL
   PO:
   TF:
                                                                     62 mL
   IVF:
                                                                  1,225 mL
                                                                    612 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,860 mL
                                                                    250 mL
   Urine:
                                                                  1,440 mL
                                                                    250 mL
   NG:
                                                                    420 mL
   Stool:
   Drains:
   Balance:
                                                                    245 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/44/78.[**Numeric Identifier 274**]/27/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   21 K/uL
   90 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.2 mEq/L
   46 mg/dL
   97 mEq/L
   131 mEq/L
   27.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2141-1-13**]  03:20 PM
                             [**2141-1-13**]  05:27 PM
                             [**2141-1-13**]  11:14 PM
                             [**2141-1-13**]  11:48 PM
                             [**2141-1-14**]  03:30 AM
                             [**2141-1-14**]  04:29 AM
                             [**2141-1-14**]  05:35 PM
                             [**2141-1-14**]  05:43 PM
                             [**2141-1-15**]  03:14 AM
                             [**2141-1-15**]  03:25 AM
   WBC
   5.8
   6.8
   6.2
   5.5
   4.3
   Hct
   25.3
   23.9
   28.1
   27.8
   27.3
   Plt
   38
   32
   33
   35
   21
   Cr
   1.0
   1.0
   1.0
   1.3
   TCO2
   28
   27
   29
   29
   30
   Glucose
   105
   111
   92
   90
   Other labs: PT / PTT / INR:27.8/45.8/2.7, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:45/136, Alk Phos / T Bili:63/12.7,
   Amylase / Lipase:[**11-8**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:209
   mg/dL, Lactic Acid:5.1 mmol/L, LDH:714 IU/L, Ca++:7.9 mg/dL, Mg++:2.6
   mg/dL, PO4:5.0 mg/dL
   Imaging: CXR - Improved fluid status with decreased effusions and
   cardiac silohuette less prominent
   Microbiology: DFA - neg
   Viral Cultures pending
   Sputum - gm pos cocci, Coag +
   Urine - E Coli
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible [**Month/Day (2) 10530**] 1 week ago,
   breast pain and a rash, broken ribs.
   # Sepsis/Strep pneumo Bacteremia
   Currently with continued hypotension necessitating pressor requirement,
   in a high cardiac output state and also with organ failure (renal and
   respiratory compromise). Likely related with strep pneumo bacteremia.
   Other sources to consider include empyema, SBT. Also with E. coli in
   urine but no in blood.
   - Continue meropenem (stopped linezolid [**1-13**], stopped
   vanc/levo/cipro/flagyl/PO vanc [**1-12**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12
    - Continue to follow ID recommendations; appreciate their input
   # Abdominal pain, Ascites
    Stable. Lactate downtrending, with continued abdominal pain on exam.
   Concern for mesenteric ischemia, peritonitis initially, although
   lactate resolving at this time (part of elevation may also have been
   secondary to liver failure, although seems unlikely that levels would
   have peaked so high solely due to this). SBT possible given ascites,
   although unlikely to present in this manner. CT showed colitis,
   negative for intrabdominal abscess. RUQ US ascites and cirrhosis, no
   venous thrombosis, s/p cholecystectomy. Unlikely toxin mediated at this
   time.
    - Discontinue IVIG
    - Continue antibiotics as above
    - Defer diagnostic paracentesis at this time
 no pocket of ascites
   seen on bedside ultrasound and coagulopathy
   - Monitor vesicular pressure [**Hospital1 **] concern for abdominal compartment
   syndrome
    # Respiratory Failure, Pleural Effusion
    Meets criteria for ARDS although mechanism and pathology likely
   related with underlying pneumonia/infection. Concern for empyema, less
   likely hemothorax although under consideration given coagulopathy.
    - Continue ARDS low tidal volume and low rate ventilation given fairly
   large empyema/ascites; brought down tidal volume and rate; increased
   FiO2
    # Respiratory Failure
   Contributions by possible infection and large empyema versus effusion.
   In addition septic respiratory distress likely. Respiratory status
   improving overnight. Now off toxic O2 at 50%. ABGs actually improving
   at present. Edema not likely playing a role at this point with low SVV,
   however CVP is lower. Given good CO and SVV will hold off on fluids for
   now.
    -Ventilate with ARDSnet protocol.
    -Treat for CAP with pneumonia
   No fluid or diuresis for now.
   - Wean vent as tolerated
 wean O2 to 40% if possible, maintain ARDSnet
   for now.
   # Rash
    Vesicular with PMNs only so far. Either sterile bacterial, perhaps
   GAS, s/p antibiotic, or viral VZV. Await DFA
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaled patient in ED.  Her liver
   synthetic function is decreased based on INR.  T.bili elevated as
   well.  [**Month (only) 11**] be decompensation of already poor liver.  Currently CP score
   of C. MELD 27. Alpha-1-anti-trypsin WNLs (checked given early COPD).
   -F/u hepatology recs.
   -Hold nadalol, spironolactone, lasix and lactulose for now
   # Positive U/A
   E.coli Gram negative, therefore not blood culture organism. Covered by
   meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   multifocal potential zoster (although unlikely) need to retest with
   consent.
   - D/w family/HCP HIV test
   # Rib Fractures/trauma
   As yet unclear etiology. Ecchymoses on exam (shoulder and back).
   Possible neck trauma, unable to assess pain.  Trauma was consulted in
   ED.  Nothing to do for now.
   -Pain control with fentanyl.
   -Obtain further history when able
   # DM/Hypoglycmia
   Hypoglycemic events and past elevated insulin and C-peptide, although
   not strikingly high. Patients Hb A1c was 5. Consider insulinoma and
   other DDx today
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Crit fall/History of [**Name (NI) **]
   Unclear history recently.  Has had upper GI bleed in past.
   -Guaiac stools
   -PPI IV BID
   -trend hct
   -Tx [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 25
   # Acute Kidney Injury
   Likely very hypoperfused with low urine output, hypoalbuminemia.
   - Calculate FeUrea
   # Bilious OG tube drainage
   No clear obstruction on CT, but likely ileus now with sedation.
   Contrast passed to colon. Suctioning less material now.
   - Turn off suction and trial OG
   # Coagulopathy
   Likely secondary to liver failure. Some concern about DIC. Unlikely
   response to vitamin K and FFP would not get us far.
    - Follow
   #Narcotic Addiction
     Restart her outpatient Methadone Dose
   # FEN: IVF, replete electrolytes (patient with low K, secondary to
   diarrhea?), OG tube in, nutrition consult in am.
   # Prophylaxis: pneumoboots
   # Access:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-12**] 01:04 AM
   20 Gauge - [**2141-1-13**] 03:57 AM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2141-1-15**] 03:13 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: (Coagulopathic with low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-01-16 11:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, S. pneumo bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Methadone started
   Lactate remains in 5s
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2141-1-13**] 05:03 PM
   Acyclovir - [**2141-1-16**] 12:30 AM
   Meropenem - [**2141-1-16**] 09:13 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2141-1-15**] 08:28 PM
   Pantoprazole (Protonix) - [**2141-1-15**] 08:45 PM
   Insulin - Regular - [**2141-1-16**] 12:09 AM
   Methadone Hydrochloride - [**2141-1-16**] 03:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-16**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (72 - 100) bpm
   BP: 114/54(71) {91/44(60) - 133/65(90)} mmHg
   RR: 33 (0 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  2,735 mL
                                                                  1,162 mL
   PO:
   TF:
                                                                    319 mL
                                                                    161 mL
   IVF:
                                                                  2,167 mL
                                                                    911 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                  1,135 mL
   Urine:
                                                                    635 mL
                                                                    175 mL
   NG:
                                                                     75 mL
   Stool:
                                                                    500 mL
   Drains:
                                                                    460 mL
   Balance:
                                                                  2,025 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 507 (507 - 507) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.41/42/72/25/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Abdominal rash not more extensive but now weeping serous
   fluid significantly
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   24 K/uL
   157 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   66 mg/dL
   100 mEq/L
   132 mEq/L
   27.5 %
   3.7 K/uL
        [image002.jpg]
                             [**2141-1-14**]  04:29 AM
                             [**2141-1-14**]  05:35 PM
                             [**2141-1-14**]  05:43 PM
                             [**2141-1-15**]  03:14 AM
                             [**2141-1-15**]  03:25 AM
                             [**2141-1-15**]  02:50 PM
                             [**2141-1-15**]  02:56 PM
                             [**2141-1-15**]  05:54 PM
                             [**2141-1-16**]  02:50 AM
                             [**2141-1-16**]  03:46 AM
   WBC
   5.5
   4.3
   7.7
   3.7
   Hct
   27.8
   27.3
   29.9
   27.5
   Plt
   35
   21
   31
   24
   Cr
   1.0
   1.3
   1.2
   1.2
   TCO2
   29
   29
   30
   29
   30
   28
   Glucose
   92
   90
   116
   157
   Other labs: PT / PTT / INR:30.6/44.4/3.0, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:46/133, Alk Phos / T Bili:77/12.0,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:209
   mg/dL, Lactic Acid:5.7 mmol/L, LDH:729 IU/L, Ca++:7.9 mg/dL, Mg++:2.8
   mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 ASCITES
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 RASH
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   Unfortunately, she has not made much clinical progress and remains
   hypoxemic and pressor dependent.
   1. Septic Shock/S. pneumo bacteremia
   -Cont linezolid,
   2. Respiratory failure
   -Cont low tidal volume stretegy.  PEEP of 15 - possible that we are
   underPEEPing her.  Will try recruitment maneuver.
   3. Oliguria
   -Cr slowly trending up but significantly volume overloaded.  Will try
   to diurese her today
   4. Cirrhosis:
   -Tbili continues to rise and lactate remains elevated
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2141-01-17 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hydrocortisone to Q12 from Q6
   - Lasix 20mg IV - did not put out, Lasix 40mg IV did not put out,
   creatinine bumped so did not redose.
   - Derm: Nothing New
   - ID: Tap Ascites, Pleural Effusion when possible - continue current
   regimen. Do not think we should start Vanc/Levofloxacin/Antifungal
   given no clear indication. We could draw mycolytic cultures.
   - Hepatology: Start Vanc/Levofloxacin/Antifungal, Albumin 25grams [**Hospital1 **] x
   3 Days
   - ECHO:  There is mild symmetric left ventricular hypertrophy with
   normal cavity size and global systolic function (LVEF>55%). Trivial
   pericardial effusion.
   - Respiratory recruitment maneuvers without improvement in oxygenation.
   - Ordered CT Torso for AM
   - Reportedly Guaiac Positive from above/below. High Residuals.
   - Bright Red Blood from NG tube overnight. HCT stable. Platelets 19 ->
   One unit transfused. INR 3.4 -> two units FFP given.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-16**] 11:38 PM
   Meropenem - [**2141-1-17**] 12:42 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 15 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2141-1-16**] 02:56 PM
   Pantoprazole (Protonix) - [**2141-1-16**] 08:41 PM
   Methadone Hydrochloride - [**2141-1-17**] 04:00 AM
   Propofol - [**2141-1-17**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-17**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36
C (96.8
   HR: 83 (71 - 104) bpm
   BP: 117/55(74) {106/49(66) - 150/75(100)} mmHg
   RR: 0 (0 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
          Total In:
                                                                  2,334 mL
                                                                  1,586 mL
   PO:
          TF:
                                                                    161 mL
   IVF:
                                                                  2,033 mL
                                                                    793 mL
   Blood products:
                                                                     50 mL
                                                                    793 mL
   Total out:
                                                                  2,790 mL
                                                                  1,955 mL
   Urine:
                                                                    410 mL
                                                                    635 mL
   NG:
                                                                    220 mL
                                                                    320 mL
   Stool:
                                                                    500 mL
   Drains:
                                                                  1,660 mL
                                                                    500 mL
   Balance:
                                                                   -456 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 93%
   ABG: 7.41/46/77/28/3
   Ve: 7 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General: intubated, sedated, withdraws to pain.
   HEENT: Sclera mildly icteric, intubated.
   Neck: supple, JVP not elevated, no LAD
   Lungs: decreased lung sounds on right.  Left with rhochi and occasional
   wheeze
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Obese, distended, moderatly tense, diminished bowel sounds.
   Distention increased today.
   GU: foley
   Ext: anasarca.
   Skin: Rash on LLQ, multiple confluescent white 5-10mm papules on an
   erythematous base, which are non blanching.  Diffuse petechial rash on
   chest, non blanching. Draining yellow fluid into pads. Has not
   increased in size since admission. Nectrotic region on left breast and
   enlarged bullae. Vesicles on stomach resolving but have been lanced for
   culture. Chronic venous stasus changes on lower extremities b/l.
   Neurologic: Sedated and minimally responsive. Pupils reactive. Unable
   to evaluate further.
   Labs / Radiology
   37 K/uL
   9.5 g/dL
   147 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   86 mg/dL
   100 mEq/L
   133 mEq/L
   28.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2141-1-15**]  02:56 PM
                             [**2141-1-15**]  05:54 PM
                             [**2141-1-16**]  02:50 AM
                             [**2141-1-16**]  03:46 AM
                             [**2141-1-16**]  04:53 PM
                             [**2141-1-16**]  05:03 PM
                             [**2141-1-16**]  09:16 PM
                             [**2141-1-17**]  01:57 AM
                             [**2141-1-17**]  02:32 AM
                             [**2141-1-17**]  06:12 AM
   WBC
   3.7
   6.7
   7.1
   Hct
   27.5
   29.0
   28.3
   Plt
   24
   23
   19
   37
   Cr
   1.2
   1.4
   1.2
   TCO2
   29
   30
   28
   30
   29
   30
   Glucose
   157
   154
   147
   Other labs: PT / PTT / INR:33.3/47.2/3.4, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:46/133, Alk Phos / T Bili:77/12.0,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:165
   mg/dL, Lactic Acid:4.6 mmol/L, LDH:1645 IU/L, Ca++:8.5 mg/dL, Mg++:3.1
   mg/dL, PO4:6.6 mg/dL
   Imaging: CXR: Pending
   Microbiology:    VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary):
         No Virus isolated so far.
      VARICELLA-ZOSTER CULTURE (Preliminary):    No Virus isolated so far.
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible [**Month/Day (2) 10530**] 1 week ago,
   breast pain and a rash, broken ribs. Respiratory failure and sepsis
   primary issues at present.
   # Sepsis/Strep pneumo Bacteremia
   Strep. Pneumo in blood. Consistent with all cultures.
   - Repeat Blood Cultures today.
   - Continue meropenem (stopped linezolid [**1-13**], stopped
   vanc/levo/cipro/flagyl/PO vanc [**1-12**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12, UO>30cc
   - Continue to follow ID recommendations; appreciate their input
   # Abdominal pain, Ascites
   Presenting symptom. No clear etiology to explain at this time. Treating
   for SBT. CT showed colitis, negative for intrabdominal abscess. RUQ US
   ascites and cirrhosis, no venous thrombosis, s/p cholecystectomy.
   - Continue antibiotics as above
   - Consider CT abdomen if scan chest.
   - Monitor vesicular pressure daily now
   - FU Hepetology Recs.
   # Respiratory Failure, Pleural Effusion
   Meets criteria for ARDS given decreased P: F ratio, bilateral
   infiltrates. Likely related with underlying pneumonia/infection.
   Concern for empyema, less likely hemothorax although under
   consideration given coagulopathy. Will follow pressure, I&Os and UOP to
   estimate need for fluid, although likely significant insensible losses.
   - Continue ARDSnet protocol ventilation with low tidal volume and low
   rate ventilation given fairly large empyema/ascites; brought down tidal
   volume and rate; increased FiO2. Given incomplete expiration (COPD
   contributing) reduce rate and possibly minute ventilation slightly to
   prevent autopeep.
   -Treat for CAP with pneumonia
   - Lasix 20mg IV today, reassess hypoxia with volume down.
   - Defer thoracentesis at this time
coagulopathy
   - Stay on AC for today, attempt to wean down Fi02 to 50%
   # Rash
   Vesicular with PMNs only so far. DFA negative.
   - Continue to follow cultures
   - Re-culture rash
   - Appreciate Derm recs
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaled patient in ED.  Her liver
   synthetic function is decreased based on INR.  T.bili elevated as well
   since admission.  [**Month (only) 11**] be decompensation of already poor liver.
   Currently CP score of C. MELD 27. Alpha-1-anti-trypsin WNLs (checked
   given early COPD).
   - F/u hepatology recs.
   - Continue lactulose
   - Hold nadalol, spironolactone  for now
   # Positive U/A
   E.coli Gram negative, therefore not blood culture organism. Covered by
   meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   multifocal potential zoster (although unlikely) need to retest with
   consent.
   - D/w patient HIV test when possible
   # Rib Fractures/trauma
   As yet unclear etiology. Ecchymoses on exam (shoulder and back).
   Possible neck trauma, unable to assess pain.  Trauma was consulted in
   ED.  Nothing to do for now.
   -Pain control with fentanyl
   -Obtain further history when able
   # Opioid dependence
   Continue methadone at last known dose (called [**Hospital 10552**] clinic but
   no-one on call today ([**Telephone/Fax (1) 10559**]).
   - Call methadone clinic on Monday
   - Maintain her on 20 mg q8h IV (on 70 mg PO QD according to last
   discharge summary)
   # DM/Hypoglycmia
   Blood glucose normal. Hypoglycemic events and past elevated insulin and
   C-peptide, although not strikingly high. Patients Hb A1c was 5.
   Consider insulinoma and other DDx.
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Crit fall/History of [**Name (NI) **]
   Unclear history.  Has had upper GI bleed in past.
   -Guaiac stools
   -PPI IV BID
   -trend hct
   -Tx at less than 21 or if symptomatic
   # Acute Kidney Injury
   [**Month (only) 11**] develop ATN, but has been some urine output. If falls off may give
   more fluid gently to evaluate response. No post-ATN diuresis. Should
   check urine microscopy.
   - Continue to follow
   - Adjust meds as needed.
   # Coagulopathy
 Elevated INR and thrombocytopenia.
   Likely secondary to liver failure. Unlikely response to vitamin K and
   FFP would not get us far. Thrombocytopenia
 partly of liver failure,
   but more likely related to other cell lines being depressed. Should
   test for HIV when possible.
   - Follow
   # Hyponatremia
   Patient on Vasopressin. Improved to 132 now that meds in NS where
   possible instead of D5. Liver failure also likely responsible.
   ICU Care
   Nutrition:  High Residuals with Tube Feeds, Holding TF
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: No prophylaxis given elevated INR
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-01-17 09:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No response to recruitment maneuver yesterday.
   Blood from NG tube overnight.  Hct stable.  Plts, FFP transfused
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2141-1-16**] 11:38 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-16**] 11:38 PM
   Meropenem - [**2141-1-17**] 12:42 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2141-1-16**] 02:56 PM
   Pantoprazole (Protonix) - [**2141-1-16**] 08:41 PM
   Methadone Hydrochloride - [**2141-1-17**] 04:00 AM
   Propofol - [**2141-1-17**] 04:34 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-17**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.6
   HR: 85 (71 - 104) bpm
   BP: 115/55(73) {106/49(66) - 150/75(100)} mmHg
   RR: 26 (0 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
          Total In:
                                                                  2,334 mL
                                                                  1,647 mL
   PO:
          TF:
                                                                    161 mL
   IVF:
                                                                  2,033 mL
                                                                    849 mL
   Blood products:
                                                                     50 mL
                                                                    798 mL
   Total out:
                                                                  2,790 mL
                                                                  2,065 mL
   Urine:
                                                                    410 mL
                                                                    685 mL
   NG:
                                                                    220 mL
                                                                    380 mL
   Stool:
                                                                    500 mL
   Drains:
                                                                  1,660 mL
                                                                    500 mL
   Balance:
                                                                   -456 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 92%
   ABG: 7.41/46/77/28/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: No(t) Soft, Non-tender, protuberant
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, erythema of abdominal rash improved but lesions continue
   to weep serous fluid
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   37 K/uL
   147 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   86 mg/dL
   100 mEq/L
   133 mEq/L
   28.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2141-1-15**]  02:56 PM
                             [**2141-1-15**]  05:54 PM
                             [**2141-1-16**]  02:50 AM
                             [**2141-1-16**]  03:46 AM
                             [**2141-1-16**]  04:53 PM
                             [**2141-1-16**]  05:03 PM
                             [**2141-1-16**]  09:16 PM
                             [**2141-1-17**]  01:57 AM
                             [**2141-1-17**]  02:32 AM
                             [**2141-1-17**]  06:12 AM
   WBC
   3.7
   6.7
   7.1
   Hct
   27.5
   29.0
   28.3
   Plt
   24
   23
   19
   37
   Cr
   1.2
   1.4
   1.2
   TCO2
   29
   30
   28
   30
   29
   30
   Glucose
   157
   154
   147
   Other labs: PT / PTT / INR:33.3/47.2/3.4, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:134/640, Alk Phos / T Bili:108/14.9,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6494 ng/mL, Fibrinogen:165
   mg/dL, Lactic Acid:4.6 mmol/L, Albumin:1.9 g/dL, LDH:1645 IU/L,
   Ca++:8.5 mg/dL, Mg++:3.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 ASCITES
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 RASH
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   Unfortunately, she has not made much clinical progress and remains
   hypoxemic and pressor dependent - though norepi dose starting to come
   down.
   1. Septic Shock/S. pneumo bacteremia
   -Cont [**Last Name (un) **]
   -Torso CT today --> will pre-hydrate with bicarb and give Mucomyst and
   get with contrast
   2. Respiratory failure
   -Remains hypoxemic - CT torso today.
   3. Oliguria
   -Urine output better with MAP > 70 --> aim for that
   4. Cirrhosis:
   --LFTs, LDH rising --> could be related to GI bleed
   5. GI Bleed
   --Monitor Hct, monitor NGT output
   --PPI
   Prognosis remains guarded.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: (will try to restart boots)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2141-01-18 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis, Respiratory Failure
   24 Hour Events:
   - Obtained CT head and CT torso with contrast after pre-treatment with
   sodium bicarbonate and acetylcysteine. CT head final read negative. CT
   torso final read pending.
   - NG lavage positive with 500cc dark, red fluid not cleared after
   flushing in the afternoon.
   - Hepatology aware and recommended correction of coagulopathy and
   indicated EGD not indicated at this time for oozing.
   - ID recommended broadening antibiotic coverage to include Vancomycin.
   We also added Flagyl. They also recommended RUQ US with dopplers to
   assess for acute clot.
   - Spoke with both [**Doctor First Name 2778**] (patient's sister's husband) at [**Telephone/Fax (1) 10591**] and
   [**Doctor First Name 142**] (patient's sister) at [**Telephone/Fax (1) 10512**]. [**Doctor First Name 142**] confirmed that she is
   the healthcare proxy. The seriousness of the patient's disease was
   conveyed including multi-organ failure and poor prognosis. [**Doctor First Name 142**] was
   recently discharged from ICU s/p extubation 3-4 days ago and is
   currently unable to come in to visit until perhaps Friday. Patient is
   currently still full code, although [**Doctor First Name 142**] notes that "she would not
   want to live like a vegetable". She would appreciate daily updates and
   make further decision regarding patient's care.
   - Patient received 2 units pRBCs, 4 units FFP, 2 unit platelets
   throughout the course of the day. Another 2 units FFP, 1 unit platelets
   written for at 0200. Goal Hct > 25, INR < 2, Plat > 50.
   - A-line replaced.
   - Called by microbiology in early AM - budding yeast growing from
   bottles on [**1-16**]. Fluconazole started.
   - Weaned to pressure support during the evening.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-17**] 04:00 PM
   Vancomycin - [**2141-1-17**] 08:30 PM
   Metronidazole - [**2141-1-17**] 10:00 PM
   Meropenem - [**2141-1-17**] 11:05 PM
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2141-1-18**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-18**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.3
   HR: 75 (71 - 90) bpm
   BP: 133/66(88) {111/52(70) - 161/96(111)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
         Total In:
                                                                  5,349 mL
                                                                  1,008 mL
   PO:
         TF:
   IVF:
                                                                  3,046 mL
                                                                     41 mL
   Blood products:
                                                                  2,302 mL
                                                                    967 mL
   Total out:
                                                                  4,210 mL
                                                                  1,435 mL
   Urine:
                                                                  1,650 mL
                                                                    485 mL
   NG:
                                                                    660 mL
                                                                    150 mL
   Stool:
   300 mL
   Drains:
                                                                  1,400 mL
                                                                    500 mL
   Balance:
                                                                  1,139 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 659 (624 - 659) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 91%
   ABG: 7.40/57/76.[**Numeric Identifier 433**]/31/7
   Ve: 6 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General: intubated, sedated
   HEENT: Sclera icteric, intubated, dried blood on lips, OG tube with
   blood
   Neck: supple, JVP not elevated, no LAD
   Lungs: decreased lung sounds on right.  Left with rhochi and occasional
   wheeze
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Obese, distended, moderatly tense, diminished bowel sounds.
   Distention increased today.
   GU: foley
   Ext: anasarca.
   Skin: Rash on LLQ, multiple confluescent white 5-10mm papules on an
   erythematous base, which are non blanching.  Diffuse petechial rash on
   chest, non blanching. Draining yellow fluid into pads. Has not
   increased in size since admission. Nectrotic region on left breast and
   enlarged bullae. Vesicles on stomach resolving but have been lanced for
   culture. Chronic venous stasus changes on lower extremities b/l.
   Neurologic: Sedated and minimally responsive. Pupils reactive. Unable
   to evaluate further.
   Labs / Radiology
   49 K/uL
   8.8 g/dL
   178 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.4 mEq/L
   93 mg/dL
   100 mEq/L
   138 mEq/L
   24.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2141-1-17**]  02:32 AM
                             [**2141-1-17**]  06:12 AM
                             [**2141-1-17**]  10:09 AM
                             [**2141-1-17**]  10:26 AM
                             [**2141-1-17**]  03:40 PM
                             [**2141-1-17**]  04:33 PM
                             [**2141-1-18**]  12:56 AM
                             [**2141-1-18**]  01:05 AM
                             [**2141-1-18**]  03:37 AM
                             [**2141-1-18**]  05:19 AM
   WBC
   4.9
   3.6
   3.8
   Hct
   25.1
   23.4
   25.9
   24.4
   Plt
   37
   26
   21
   29
   49
   Cr
   0.9
   0.6
   TCO2
   30
   26
   33
   37
   37
   Glucose
   [**Telephone/Fax (3) 10592**]
   Other labs: PT / PTT / INR:22.0/29.7/2.1, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:108/347, Alk Phos / T Bili:92/18.7,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:7666 ng/mL, Fibrinogen:144
   mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.9 g/dL, LDH:962 IU/L, Ca++:9.1
   mg/dL, Mg++:3.2 mg/dL, PO4:5.6 mg/dL
   Imaging: CT Head:
   1. No acute hemorrhage.
   2. Improved paranasal sinus disease.
   3. New bilateral mastoid opacification secondary to intubation.
   CT ABD/Pelvis:
   Preliminary call from radiology noted that chest still has multifocal
   opacities, moderate size pleural effusion; looks slightly better.
   Abdomen/pelvis with increased third spacing of fluid, ascites
   collecting deep in pelvis.
   Microbiology: [**2141-1-16**] 4:52 pm BLOOD CULTURE      Source: Line-central.
      Blood Culture, Routine (Preliminary):
         YEAST.    BUDDING YEAST.
      VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary):
         No Virus isolated so far.
      VARICELLA-ZOSTER CULTURE (Preliminary):    No Virus isolated so far.
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible melena 1 week ago,
   breast pain and a rash, broken ribs. Respiratory failure and sepsis
   primary issues at present.
   # Sepsis/Strep Pneumo Bacteremia
   Strep. Pneumo in blood. Consistent with all cultures. Repeat blood
   cultures from [**1-16**] NGTD.
   - Would consider broadening coverage to include Vancomycin.
   - Continue meropenem (stopped linezolid [**1-13**], stopped
   vanc/levo/cipro/flagyl/PO vanc [**1-12**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12, UO>30cc
   - Continue to follow ID recommendations; appreciate their input
   # Fungemia:
   -          Optho today
   -          Change to Micafungin until speciation.
   .
   # Transaminitis/Hyperbilirubinemia
   Trending up since admission. Overnight LFTs increased drastically.
   Unclear etiology. Most likely related to cholestasis in the setting of
   acute illness.
   - Continue antibiotics as above
   - CT Abdomen with Contrast today.
   - Monitor vesicular pressure daily now
   - FU Hepatology Recs.
   # Respiratory Failure, Pleural Effusion
   Meets criteria for ARDS given decreased P: F ratio, bilateral
   infiltrates. Likely related with underlying pneumonia/infection.
   Concern for empyema, less likely hemothorax although under
   consideration given coagulopathy. Will follow pressure, I&Os and UOP to
   estimate need for fluid, although likely significant insensible losses.
   - Continue ARDSnet protocol ventilation with low tidal volume and low
   rate ventilation given fairly large empyema/ascites; brought down tidal
   volume and rate; increased FiO2. Given incomplete expiration (COPD
   contributing) reduce rate and possibly minute ventilation slightly to
   prevent autopeep.
   -Treat for CAP with pneumonia
   - Defer thoracentesis at this time
coagulopathy
   - Stay on AC for today, attempt to wean down Fi02
   # Blood Per OG Tube: [**Month (only) 11**] be related to gastritis, stress ulcer, varix
   (previous varices banded in [**2139-6-23**]). Question need for EGD to
   eval etiology of bleed.
   - Appreciate Hepatology Recs.
   - Q6 Hr HCT
   -Guaiac stools
   -PPI IV BID
   -Tx at less than 21 or if symptomatic
   - Platelets >20, FFP to decrease INR
   # Rash
   Vesicular with PMNs only so far. DFA negative. Viral Culture
   preliminary negative.
   - DC Acyclovir
   - Continue to follow cultures
   - Re-culture rash
   - Appreciate Derm recs
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaled patient in ED.  Her liver
   synthetic function is decreased based on INR.  T.bili elevated as well
   since admission.  [**Month (only) 11**] be decompensation of already poor liver.
   Currently CP score of C. MELD 27. Alpha-1-anti-trypsin WNLs (checked
   given early COPD).
   - F/u hepatology recs.
   - Continue lactulose
   - Hold nadalol, spironolactone, lasix  for now
   # Positive U/A
   E.coli Gram negative, therefore not blood culture organism. Covered by
   meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   multifocal potential zoster (although unlikely) need to retest with
   consent.
   - D/w patient HIV test when possible
   # Rib Fractures/trauma
   As yet unclear etiology. Ecchymoses on exam (shoulder and back).
   Possible neck trauma, unable to assess pain.  Trauma was consulted in
   ED.  Nothing to do for now.
   -Pain control with fentanyl
   -Obtain further history when able
   # Opioid dependence
   Continue methadone at last known dose (called [**Hospital 10552**] clinic but
   no-one on call today ([**Telephone/Fax (1) 10559**]).
   - Call methadone clinic on Monday
   - Maintain her on 20 mg q8h IV (on 70 mg PO QD according to last
   discharge summary)
   # DM/Hypoglycmia
   Blood glucose normal. Hypoglycemic events and past elevated insulin and
   C-peptide, although not strikingly high. Patients Hb A1c was 5.
   Consider insulinoma and other DDx.
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Acute Kidney Injury
   [**Month (only) 11**] develop ATN, but has been some urine output. If falls off may give
   more fluid gently to evaluate response. No post-ATN diuresis. Should
   check urine microscopy.
   - Continue to follow
   - Adjust meds as needed.
   - Avoid nephrotoxins
   - Bicarb/Mucomyst prior to CT with contrast.
   # Hyponatremia
   Patient on Vasopressin. Improved to 133 now that meds in NS where
   possible instead of D5. Liver failure also likely responsible.
   ICU Care
   Nutrition:  High Residuals with Tube Feeds, Holding TF
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: No prophylaxis given elevated INR
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-01-18 10:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Able to come off of pressors
   Head CT prelim neg
   24 Hour Events:
   Budding yeast from blood cxs [**1-16**]
   Switched to PSV overnight --> desats this AM
   History obtained from Medical records, icu team
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-17**] 04:00 PM
   Vancomycin - [**2141-1-17**] 08:30 PM
   Metronidazole - [**2141-1-17**] 10:00 PM
   Meropenem - [**2141-1-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2141-1-18**] 04:18 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-18**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 85 (71 - 90) bpm
   BP: 135/74(93) {112/53(71) - 161/96(111)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
         Total In:
                                                                  5,350 mL
                                                                  1,175 mL
   PO:
         TF:
   IVF:
                                                                  3,047 mL
                                                                    208 mL
   Blood products:
                                                                  2,302 mL
                                                                    967 mL
   Total out:
                                                                  4,210 mL
                                                                  1,840 mL
   Urine:
                                                                  1,650 mL
                                                                    590 mL
   NG:
                                                                    660 mL
                                                                    450 mL
   Stool:
   300 mL
   Drains:
                                                                  1,400 mL
                                                                    500 mL
   Balance:
                                                                  1,140 mL
                                                                   -665 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 589 (589 - 659) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 88%
   ABG: 7.40/55/65/31/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   49 K/uL
   178 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.4 mEq/L
   93 mg/dL
   100 mEq/L
   138 mEq/L
   24.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2141-1-17**]  06:12 AM
                             [**2141-1-17**]  10:09 AM
                             [**2141-1-17**]  10:26 AM
                             [**2141-1-17**]  03:40 PM
                             [**2141-1-17**]  04:33 PM
                             [**2141-1-18**]  12:56 AM
                             [**2141-1-18**]  01:05 AM
                             [**2141-1-18**]  03:37 AM
                             [**2141-1-18**]  05:19 AM
                             [**2141-1-18**]  09:04 AM
   WBC
   4.9
   3.6
   3.8
   Hct
   25.1
   23.4
   25.9
   24.4
   Plt
   37
   26
   21
   29
   49
   Cr
   0.9
   0.6
   TCO2
   26
   33
   37
   37
   35
   Glucose
   [**Telephone/Fax (3) 10592**]
   Other labs: PT / PTT / INR:22.0/29.7/2.1, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:108/347, Alk Phos / T Bili:92/18.7,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:7666 ng/mL, Fibrinogen:144
   mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.9 g/dL, LDH:962 IU/L, Ca++:9.1
   mg/dL, Mg++:3.2 mg/dL, PO4:5.6 mg/dL
   Imaging: CT head: no acute process
   CT torso: pelvic ascites, continued multifocal lung opacities (no sig
   change)
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 ASCITES
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 RASH
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   Unfortunately, she has not made much clinical progress from a
   respiratory perspective but is now off of pressors
   1. Septic Shock/S. pneumo bacteremia/fungemia
   -Cont vanc/[**Last Name (un) **]/flagyl
   -ACV d/c'd
   -Start micafungin for fungemia
   -abd rash much improved
   2. Respiratory failure
   -Remains hypoxemic - CT torso today.
   3. Acute renal failure
   -Cr trending down
   4. Cirrhosis:
   --LFTs cont to trend up --> cont to follow
   5. GI Bleed
   --Blood per OG improved
   --Cont to for goal INR < 2.5, plts > 50
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   20 Gauge - [**2141-1-13**] 03:57 AM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT: Boots
 will try again to put on
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-01-19 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Social Work spoke with sister [**Name (NI) 142**]. She is unable to come in - as we
   know. We can plan for conference call on Friday if team thinks this
   would benefit.
   - ID: Micafungin.
   - Hep: Continue lactulose, lasix gtt and albumin for diuresis.
   - Optho: Okay, Will need repeat exam in two weeks.
   - RUQ US with Doppler: Patent with good flow.
   - [**Hospital 10552**] Clinic: 70mg Daily, Daily, Last there [**1-9**]. Changed to
   Methadone IV 15mg IV Q8hrs.
   - HCT: 2 Units pRBCs, 2 FFP
   - CT Torso:
   1. Moderate right pleural effusion, smaller than on the prior
   examination.  Extensive bibasilar atelectasis and multifocal bilateral
   lung opacities minimally improved since the prior study concerning for
   multifocal pneumonia.
   2. Abdominal ascites, slightly increased in volume compared to the
   prior study.
   3. Cirrhotic liver with splenomegaly and splenic varices.
   4. Pan colonic wall thickening suggestive of pancolitis. Etiology
   includes infection or inflammatory. However third spacing may cause a
   similar finding.
   5. Bilateral rib fractures including displaced right-sided rib
   fractures.  Unchanged from the prior study. Correlate with possible
   history of CPR.
   6. Total body anasarca.
   - Lasix 60mg IV x 2 -> I/O
   - Double lumen midline placed. Will need to pull midline [**1-22**].
   Did not pull IJ given low o2 sats and need for propofol overnight.
   - Later in the evening Satting 87% -> did not improve with increased
   FiO2, changed back to AC.
   - CXR: Stable
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-17**] 04:00 PM
   Micafungin - [**2141-1-18**] 12:00 PM
   Vancomycin - [**2141-1-18**] 08:29 PM
   Meropenem - [**2141-1-19**] 12:00 AM
   Metronidazole - [**2141-1-19**] 05:32 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-1-18**] 08:00 PM
   Furosemide (Lasix) - [**2141-1-18**] 08:00 PM
   Methadone Hydrochloride - [**2141-1-19**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-19**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 77 (73 - 90) bpm
   BP: 121/59(80) {109/50(69) - 172/162(168)} mmHg
   RR: 25 (14 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
             Total In:
                                                                  3,846 mL
                                                                    391 mL
   PO:
             TF:
   IVF:
                                                                  1,259 mL
                                                                    291 mL
   Blood products:
                                                                  2,267 mL
   Total out:
                                                                  4,600 mL
                                                                  1,260 mL
   Urine:
                                                                  2,960 mL
                                                                    710 mL
   NG:
                                                                    840 mL
                                                                    150 mL
   Stool:
                                                                    300 mL
                                                                    400 mL
   Drains:
                                                                    500 mL
   Balance:
                                                                   -754 mL
                                                                   -869 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 518 (518 - 589) mL
   PS : 12 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 90%
   ABG: 7.45/56/84.[**Numeric Identifier 1132**]/38/12
   Ve: 10.7 L/min
   PaO2 / FiO2: 105
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera icteric, intubated, dried blood on lips, OG tube with
   blood
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Decreased lung sounds on right.  Left with rhochi and occasional
   wheeze
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Obese, distended, moderatly tense, diminished bowel sounds.
   Distention increased today.
   GU: Foley
   Ext: Anasarca.
   Skin: Rash on LLQ, multiple confluescent white 5-10mm papules on an
   erythematous base, which are non blanching.  Diffuse petechial rash on
   chest, non blanching. Draining yellow fluid into pads. Has not
   increased in size since admission. Nectrotic region on left breast and
   enlarged bullae. Vesicles on stomach resolving but have been lanced for
   culture. Chronic venous stasus changes on lower extremities b/l.
   Neurologic: Sedated and minimally responsive. Pupils reactive. Unable
   to evaluate further.
   Labs / Radiology
   34 K/uL
   8.9 g/dL
   178 mg/dL
   0.8 mg/dL
   38 mEq/L
   4.2 mEq/L
   89 mg/dL
   101 mEq/L
   145 mEq/L
   25.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2141-1-18**]  09:04 AM
                             [**2141-1-18**]  10:15 AM
                             [**2141-1-18**]  10:51 AM
                             [**2141-1-18**]  04:17 PM
                             [**2141-1-18**]  07:08 PM
                             [**2141-1-18**]  08:14 PM
                             [**2141-1-18**]  08:56 PM
                             [**2141-1-18**]  11:11 PM
                             [**2141-1-19**]  04:42 AM
                             [**2141-1-19**]  04:52 AM
   WBC
   4.3
   4.9
   Hct
   23.6
   26.6
   25.6
   Plt
   34
   32
   34
   Cr
   1.1
   0.9
   0.8
   TCO2
   35
   38
   38
   37
   38
   39
   40
   Glucose
   165
   175
   178
   Other labs: PT / PTT / INR:26.8/31.1/2.6, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:79/226, Alk Phos / T Bili:91/23.9,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:7666 ng/mL, Fibrinogen:159
   mg/dL, Lactic Acid:3.4 mmol/L, Albumin:2.9 g/dL, LDH:804 IU/L, Ca++:9.0
   mg/dL, Mg++:3.3 mg/dL, PO4:5.2 mg/dL
   [**2141-1-19**] 04:42AM    ALT/AST 79/226 LDH 804 TBili 23.9
   [**2141-1-18**] 12:56AM    ALT/AST 108/347 LDH 962 TBili 18.7
   [**1-17**] CT ABDOMEN/PELVIS
   1. Moderate right pleural effusion, smaller than on the prior
   examination.  Extensive bibasilar atelectasis and multifocal bilateral
   lung opacities minimally improved since the prior study concerning for
   multifocal pneumonia.
   2. Abdominal ascites, slightly increased in volume compared to the
   prior study.
   3. Cirrhotic liver with splenomegaly and splenic varices.
   4. Pan colonic wall thickening suggestive of pancolitis. Etiology
   includes infection or inflammatory. However third spacing may cause a
   similar finding.
   5. Bilateral rib fractures including displaced right-sided rib
   fractures.  Unchanged from the prior study. Correlate with possible
   history of CPR.
   6. Total body anasarca.
   [**2141-1-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2141-1-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2141-1-16**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY {YEAST}; BLOOD/AFB CULTURE-FINAL; Myco-F Bottle
   Gram Stain-FINAL
      BLOOD/FUNGAL CULTURE (Preliminary):
         YEAST.
      BLOOD/AFB CULTURE (Final [**2141-1-18**]):
         DUE TO OVERGROWTH OF YEAST, UNABLE TO CONTINUE MONITORING FOR
   AFB.
      Myco-F Bottle Gram Stain (Final [**2141-1-18**]):
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] #[**Numeric Identifier 10509**] @1200, [**2141-1-18**].
         BUDDING YEAST.
   [**2141-1-16**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {YEAST};
   Aerobic Bottle Gram Stain-FINAL
      Blood Culture, Routine (Preliminary):
         YEAST.    BUDDING YEAST.
      Aerobic Bottle Gram Stain (Final [**2141-1-18**]):
   [**2141-1-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible melena 1 week ago,
   breast pain and a rash, broken ribs. Respiratory failure and sepsis
   primary issues at present.
   # Sepsis/Strep Pneumo Bacteremia
   Strep. Pneumo in blood. Consistent with all cultures. Repeat blood
   cultures from [**1-16**] NGTD of Strep. Pneumo.
   - Continue Vancomycin, Flagyl and Meropenem (stopped Linezolid [**1-13**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12, UO>30cc
   - Continue to follow ID recommendations; appreciate their input
   - Trend blood cultures
   # Fungemia
   Two sets of blood cultures from [**1-16**] positive for yeast. Will Identify
   type over next 48 hours. Negative ophtho evaluation on [**1-18**]. Will need
   repeat eye exam in 2 weeks from that date.
   - Continue Micafungin until speciation
   - Trend blood cultures
   - Discuss on rounds re: pull line
   .
   # Transaminitis/Hyperbilirubinemia
   Stable/downtrending at this time although bilirubin continues to rise.
   Unclear etiology, but most likely related to cholestasis in the setting
   of acute illness.
   - Continue antibiotics as above
   - Monitor vesicular pressure daily for previous concern re: abdominal
   compartment syndrome
   - Continue to follow hepatology recommendations; appreciate their input
   # Respiratory Failure/Pleural Effusion
   ABG indicates primary metabolic alkalosis which is compensated;
   concomitant respiratory acidosis. Episodes of desaturation to high 80s
   overnight. Unclear etiology; CXR unremarkable. Likely secondary to
   volume overload (+16L length of stay) associated with DIC
   resuscitation. Meets criteria for ARDS given decreased P: F ratio,
   bilateral infiltrates. Likely related with underlying
   pneumonia/infection. Will defer thoracentesis at this time given
   coagulopathy. Will follow pressure, I&Os and UOP to estimate need for
   fluid, although likely significant insensible losses.
   - Continue CMV assist
   - Continue ARDSnet protocol ventilation with low tidal volume and low
   rate ventilation given fairly large empyema/ascites; brought down tidal
   volume and rate; increased FiO2. Given incomplete expiration (COPD
   contributing) reduce rate and possibly minute ventilation slightly to
   prevent auto PEEP
   - Continue antibiotics as above
   - Continue Lasix gtt goal -1L
   # Blood Per OG Tube
   Resolving. Likely related with gastritis, stress ulcer, varices
   (previous varices banded in [**2139-6-23**]). No EGD indicated per
   hepatology given oozing and will correct primary coagulopathy.
   - Continue to follow hepatology recommendations; appreciate their input
   - q8 hour Hct
   - Guaiac stools
   - PPI IV BID
   - Goal platelets > 50, INR < 2, Hct > 25
   # Abdominal Rash
   Has continued to improve on therapy. Vesicular with PMNs only so far.
   DFA negative. Viral culture preliminary negative.
   - Continue to follow cultures
   - Re-culture rash if worse
   - Continue to follow dermatology recommendations; appreciate their
   input
   # Altered Mental Status
   Head CT without acute process. On Methadone and Propofol. Patient
   unresponsive to voice but does withdrawal to pain. Uncertain if hypoxic
   component or if related to poor elimination of sedation/benzos given
   poor liver function. Ammonia not elevated; unlikely hepatic
   encephalopathy.
   - Continue to follow
   - Minimize sedation/benzos
   - Continue lactulose
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaluated patient in ED.  Her
   liver synthetic function is decreased based on INR.  T bili elevated as
   well since admission.  [**Month (only) 11**] be decompensation of already poor liver.
   MELD 29 today. Alpha-1-anti-trypsin within normal limits (checked given
   early COPD).
   - Continue to follow hepatology recommendations; appreciate their input
   - Continue lactulose
   - Hold nadalol, spironolactone at this time
   # Positive UA
   E.coli negative in blood cultures. Covered by meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   fungemia, will need to test with consent.
   - Discuss with patient HIV test when possible
   # Rib Fractures/Trauma
   Etiology unclear. Ecchymoses on exam (shoulder and back).  Possible
   neck trauma, unable to assess pain. Trauma was consulted in ED.
   Possible history of abuse. Nothing to do for now.
   - Pain control with fentanyl
   - Social work consult when awake
   - Obtain further history when able
   # Opioid dependence
   Continue methadone at last known dose (called [**Hospital 10552**] clinic but
   no-one on call today ([**Telephone/Fax (1) 10559**]).
   - Follow up methadone clinic
   - Maintain her on 20 mg q8h IV (on 70 mg PO QD according to last
   discharge summary)
   # DM/Hypoglycmia
   Blood glucose normal. Hypoglycemic events and past elevated insulin and
   C-peptide, although not strikingly high. Patients Hb A1c was 5.
   Consider insulinoma and other DDx.
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Acute Kidney Injury
   Continues to improve with fluid.  Received and should continue to
   receive pre/post-treatment with bicarb/Mucomyst if CT with contrast.
   - Trend Cr
   - Avoid nephrotoxins, renally dose medications
   # FEN: IVF prn, replete electrolytes, OG tube in; currently NPO as
   holding tube feeds for high residuals
   # Prophylaxis: Pneumoboots when able; No prophylaxis at this time given
   elevated INR and also ongoing coagulopathy
   # Access:
   Double Lumen midline placed [**1-18**]; will need to be removed [**1-21**]
   Multi Lumen central line placed [**1-11**]; will need to remove given
   fungemia
   Arterial Line placed [**1-12**]; will need to remove given fungemia
   20 Gauge placed [**1-13**]
   # Communication: Patient; patient
s sister [**Name (NI) 142**] is HCP ([**Telephone/Fax (1) 10512**]);
   [**Doctor First Name 2778**] is [**First Name11 (Name Pattern1) 142**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] (cell [**Telephone/Fax (1) 10591**])
   # Code:  Full (discussed with patient
s HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-01-19 10:43:00 Physician Attending Progress Note
Chief Complaint: respiratory Failure,Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Dropped sats overnight with attempt to wean PEEP
   24 Hour Events:
   RUQ U/S- sopplers with good flow
   Seen by ophtho - no evidence of eye involvement of fungal infection
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-17**] 04:00 PM
   Micafungin - [**2141-1-18**] 12:00 PM
   Metronidazole - [**2141-1-19**] 05:32 AM
   Meropenem - [**2141-1-19**] 08:07 AM
   Vancomycin - [**2141-1-19**] 08:07 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-1-18**] 08:00 PM
   Furosemide (Lasix) - [**2141-1-18**] 08:00 PM
   Methadone Hydrochloride - [**2141-1-19**] 04:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-19**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 75 (73 - 90) bpm
   BP: 123/58(79) {109/50(69) - 172/162(168)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
             Total In:
                                                                  3,846 mL
                                                                    807 mL
   PO:
             TF:
   IVF:
                                                                  1,259 mL
                                                                    647 mL
   Blood products:
                                                                  2,267 mL
   Total out:
                                                                  4,600 mL
                                                                  1,640 mL
   Urine:
                                                                  2,960 mL
                                                                  1,090 mL
   NG:
                                                                    840 mL
                                                                    150 mL
   Stool:
                                                                    300 mL
                                                                    400 mL
   Drains:
                                                                    500 mL
   Balance:
                                                                   -754 mL
                                                                   -833 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 518 (518 - 587) mL
   PS : 12 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.45/56/84.[**Numeric Identifier 1132**]/38/12
   Ve: 10.3 L/min
   PaO2 / FiO2: 105
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   34 K/uL
   178 mg/dL
   0.8 mg/dL
   38 mEq/L
   4.2 mEq/L
   89 mg/dL
   101 mEq/L
   145 mEq/L
   25.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2141-1-18**]  09:04 AM
                             [**2141-1-18**]  10:15 AM
                             [**2141-1-18**]  10:51 AM
                             [**2141-1-18**]  04:17 PM
                             [**2141-1-18**]  07:08 PM
                             [**2141-1-18**]  08:14 PM
                             [**2141-1-18**]  08:56 PM
                             [**2141-1-18**]  11:11 PM
                             [**2141-1-19**]  04:42 AM
                             [**2141-1-19**]  04:52 AM
   WBC
   4.3
   4.9
   Hct
   23.6
   26.6
   25.6
   Plt
   34
   32
   34
   Cr
   1.1
   0.9
   0.8
   TCO2
   35
   38
   38
   37
   38
   39
   40
   Glucose
   165
   175
   178
   Other labs: PT / PTT / INR:26.8/31.1/2.6, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:79/226, Alk Phos / T Bili:91/23.9,
   Amylase / Lipase:[**11-17**], Differential-Neuts:65.0 %, Band:4.0 %,
   Lymph:14.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:7666 ng/mL, Fibrinogen:159
   mg/dL, Lactic Acid:3.4 mmol/L, Albumin:2.9 g/dL, LDH:804 IU/L, Ca++:9.0
   mg/dL, Mg++:3.3 mg/dL, PO4:5.2 mg/dL
   Imaging: CT torso - anasarca, colitis, ascites
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 ASCITES
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 RASH
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   Now improved hemodynamically but has ongoing severe hypoxemia
   1. Septic Shock/S. pneumo bacteremia/fungemia
   -Cont vanc/[**Last Name (un) **]/flagyl
   -Cont micafungin --> D/C central line
   2. Respiratory failure
   -CT torso --> she has bilater dependent collapse L > R
   -Try to wean FIO2 today if possible
   3. Acute renal failure
   -Cr 0.8
   -Switch Lasix to bolus
   -fH20 repletion
   4. Cirrhosis:
   --Tbili now 23
   5. Altered MS
   [**Name13 (STitle) 10607**] head unrevealing
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-11**] 11:47 PM
   Arterial Line - [**2141-1-13**] 05:06 PM
   Midline - [**2141-1-19**] 08:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-01-20 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2141-1-19**] 08:20 AM
 MULTI LUMEN - STOP [**2141-1-19**] 05:00 PM
   - Nutrition recommended restarting tube feeds with Vivonex. Anticipate
   will likely have high residuals and will need to discuss with team
   regarding TPN.
   - Spoke with [**Doctor First Name 142**] ([**Telephone/Fax (1) 10512**]) to update her on patient care;
   mentioned mental status, fungemia, possibility of PEG/trach.
   - Central line pulled and tip cultured.
   - ID recs: Stop vancomycin given meropenem - decided not to for now
   given dramatic improvement of skin with vancomycin and present trend to
   improvement. Send C. diff. and cultured tip, per their advice. Did not
   perform paracentesis, despite recommendation from ID, given
   Hepatologies advice. Will consider again on rounds in a.m.
   - Received 40mg lasix yesterday.
   - Received two FFP, one platelets in the morning.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-17**] 04:00 PM
   Vancomycin - [**2141-1-19**] 08:07 AM
   Micafungin - [**2141-1-19**] 12:02 PM
   Meropenem - [**2141-1-20**] 12:00 AM
   Metronidazole - [**2141-1-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-1-19**] 12:03 PM
   Pantoprazole (Protonix) - [**2141-1-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-20**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 92 (70 - 92) bpm
   BP: 137/63(87) {85/52(74) - 137/71(95)} mmHg
   RR: 26 (23 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
             Total In:
                                                                  2,182 mL
                                                                    798 mL
   PO:
             TF:
                                                                    109 mL
                                                                     80 mL
   IVF:
                                                                  1,663 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  4,145 mL
                                                                  1,400 mL
   Urine:
                                                                  3,395 mL
                                                                  1,400 mL
   NG:
                                                                    150 mL
   Stool:
                                                                    400 mL
   Drains:
                                                                    200 mL
   Balance:
                                                                 -1,963 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.48/57/134/38/16
   Ve: 9.9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera icteric, intubated, dried blood on lips, OG tube with
   some blood; face appears jaundiced
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Shallow breath sounds; occasional rhonchi.
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Obese, distended, moderately tense, diminished bowel sounds.
   Distension similar to prior;
   GU: Foley
   Ext: Anasarca.
   Skin: Rash on LLQ appears improved in character; confluescent bullae
   draining yellow fluid with bag in place. Has decreased in character
   since admission. Chronic venous stasus changes on lower extremities
   b/l.
   Neurologic: Sedated and minimally responsive. Pupils reactive. Unable
   to evaluate further.
   Labs / Radiology
   25 K/uL
   8.2 g/dL
   218 mg/dL
   0.3 mg/dL
   38 mEq/L
   4.1 mEq/L
   78 mg/dL
   104 mEq/L
   150 mEq/L
   26.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2141-1-18**]  07:08 PM
                             [**2141-1-18**]  08:14 PM
                             [**2141-1-18**]  08:56 PM
                             [**2141-1-18**]  11:11 PM
                             [**2141-1-19**]  04:42 AM
                             [**2141-1-19**]  04:52 AM
                             [**2141-1-19**]  02:46 PM
                             [**2141-1-19**]  07:53 PM
                             [**2141-1-20**]  03:26 AM
                             [**2141-1-20**]  06:32 AM
   WBC
   4.9
   4.2
   4.1
   Hct
   26.6
   25.6
   25.8
   25.4
   26.0
   Plt
   32
   34
   28
   25
   Cr
   0.9
   0.8
   0.6
   0.3
   TCO2
   37
   38
   39
   40
   44
   Glucose
   175
   178
   178
   218
   Other labs: PT / PTT / INR:30.2/34.7/3.0, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:63/174, Alk Phos / T Bili:92/26.7,
   Amylase / Lipase:[**11-17**], Differential-Neuts:71.0 %, Band:5.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:7666 ng/mL, Fibrinogen:159
   mg/dL, Lactic Acid:3.4 mmol/L, Albumin:2.8 g/dL, LDH:861 IU/L, Ca++:8.6
   mg/dL, Mg++:3.1 mg/dL, PO4:3.9 mg/dL
   [**2141-1-20**] NO NEW CXR
   [**2141-1-19**]  CATHETER TIP-IV WOUND CULTURE-PENDING
   [**2141-1-19**]  SEROLOGY/BLOOD CRYPTOCOCCAL ANTIGEN-FINAL
                               **FINAL REPORT [**2141-1-19**]**
      CRYPTOCOCCAL ANTIGEN (Final [**2141-1-19**]):
         CRYPTOCOCCAL ANTIGEN NOT DETECTED.
   [**2141-1-19**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
                               **FINAL REPORT [**2141-1-20**]**
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2141-1-20**]):
         Feces negative for C.difficile toxin A & B by EIA.
   [**2141-1-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2141-1-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2141-1-16**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY {YEAST}; BLOOD/AFB CULTURE-FINAL; Myco-F Bottle
   Gram Stain-FINAL
      BLOOD/FUNGAL CULTURE (Preliminary):
         YEAST.    IDENTIFICATION PERFORMED ON CULTURE # 290-0317T
   [**2141-1-16**].
            Consultations with ID are recommended for all blood cultures
            positive for Staphylococcus aureus and [**Female First Name (un) **] species.
      BLOOD/AFB CULTURE (Final [**2141-1-18**]):
         DUE TO OVERGROWTH OF YEAST, UNABLE TO CONTINUE MONITORING FOR
   AFB.
      Myco-F Bottle Gram Stain (Final [**2141-1-18**]):
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] #[**Numeric Identifier 10509**] @1200, [**2141-1-18**].
         BUDDING YEAST.
   [**2141-1-16**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {[**Female First Name (un) **]
   ALBICANS, PRESUMPTIVE IDENTIFICATION}; Aerobic Bottle Gram Stain-FINAL
      Blood Culture, Routine (Preliminary):
         [**Female First Name (un) **] ALBICANS, PRESUMPTIVE IDENTIFICATION.
            DEFINITIVE IDENTIFICATION TO FOLLOW.
            Consultations with ID are recommended for all blood cultures
            positive for Staphylococcus aureus and [**Female First Name (un) **] species.
   [**2141-1-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   40 yo F with cirrhosis [**1-24**] hep C, COPD, ? DM, depression who presents
   with abdominal pain, nausea, vomiting, possible melena 1 week ago,
   breast pain and a rash, broken ribs. Respiratory failure and sepsis
   primary issues at present.
   # Sepsis/Strep Pneumo Bacteremia
   Strep. Pneumo in blood. Consistent with all cultures. Repeat blood
   cultures from [**1-16**] NGTD of Strep. Pneumo.
   - Continue Vancomycin (renally dosed), Flagyl and Meropenem (stopped
   Linezolid [**1-13**])
   - Early goal directed care; MAP > 65 with pressors prn (currently on
   norepi and vasopressin), CVP > 12, UO>30cc
   - Continue to follow ID recommendations; appreciate their input
   - Trend blood cultures
   # Fungemia
   Two sets of blood cultures from [**1-16**] positive for yeast. Will Identify
   type over next 48 hours. Negative ophtho evaluation on [**1-18**]. Will need
   repeat eye exam in 2 weeks from that date. Central line removed
   [**2141-1-19**] given fungemia.
   - Continue Micafungin until speciation
   - Trend blood cultures
   - Continue to follow ID recommendations; appreciate their input
   # Respiratory Failure/Pleural Effusion
   ABG indicates primary metabolic alkalosis which is compensated;
   concomitant respiratory acidosis. Episodes of desaturation to high 80s
   overnight. Unclear etiology; CXR unremarkable. Likely secondary to
   volume overload (+16L length of stay) associated with DIC
   resuscitation. Meets criteria for ARDS given decreased P: F ratio,
   bilateral infiltrates. Likely related with underlying
   pneumonia/infection. Will defer thoracentesis at this time given
   coagulopathy. Will follow pressure, I&Os and UOP to estimate need for
   fluid, although likely significant insensible losses.
   - Continue CMV assist
   - Continue ARDSnet protocol ventilation with low tidal volume and low
   rate ventilation given fairly large empyema/ascites; brought down tidal
   volume and rate; increased FiO2. Given incomplete expiration (COPD
   contributing) reduce rate and possibly minute ventilation slightly to
   prevent auto PEEP
   - Continue antibiotics as above
   - Lasix 40mg [**Hospital1 **] goal -1L
   # Transaminitis/Hyperbilirubinemia
   Stable/downtrending at this time although bilirubin continues to rise.
   Unclear etiology, but most likely related to cholestasis in the setting
   of acute illness.
   - Continue antibiotics as above
   - Monitor vesicular pressure daily for previous concern re: abdominal
   compartment syndrome
   - Continue to follow hepatology recommendations; appreciate their input
   # Blood Per OG Tube
   Resolving. Likely related with gastritis, stress ulcer, varices
   (previous varices banded in [**2139-6-23**]). No EGD indicated per
   hepatology given oozing and will correct primary coagulopathy.
   - Continue to follow hepatology recommendations; appreciate their input
   - q8 hour Hct
   - Guaiac stools
   - PPI IV BID
   - Goal platelets > 30, INR < 2, Hct > 25
   # Abdominal Rash
   Has continued to improve on therapy. Vesicular with PMNs only so far.
   DFA negative. Viral culture preliminary negative.
   - Continue to follow cultures
   - Re-culture rash if worse
   - Continue to follow dermatology recommendations; appreciate their
   input
   # Altered Mental Status
   Head CT without acute process. On Methadone and Propofol. Patient
   unresponsive to voice but does withdrawal to pain. Uncertain if hypoxic
   component or if related to poor elimination of sedation/benzos given
   poor liver function. Ammonia not elevated; unlikely hepatic
   encephalopathy. Given fungemia, considering cryptococcal meningitis or
   other causes. Cryptococcal serology negative.
   - Continue to follow
   - Minimize sedation/benzos
   - Continue lactulose
   # Cirrhosis
   Secondary to Hep C, possible also made worse by EtOH.  Followed by
   liver clinic (Dr. [**Last Name (STitle) **].  Hepatology evaluated patient in ED.  Her
   liver synthetic function is decreased based on INR.  T bili elevated as
   well since admission.  [**Month (only) 11**] be decompensation of already poor liver.
   MELD 29 today. Alpha-1-anti-trypsin within normal limits (checked given
   early COPD).
   - Continue to follow hepatology recommendations; appreciate their input
   - Continue lactulose
   - Hold nadalol, spironolactone at this time
   # Positive UA
   E.coli negative in blood cultures. Covered by meropenem
   # Pancytopenia
   Counts are stably low.  Likely related to hep C.  Patient reports being
   HIV negative multiple time in OMR but no HIV documented.  Given
   fungemia, will need to test with consent.
   - Discuss with patient HIV test when possible
   # Rib Fractures/Trauma
   Etiology unclear. Ecchymoses on exam (shoulder and back).  Possible
   neck trauma, unable to assess pain. Trauma was consulted in ED.
   Possible history of abuse. Nothing to do for now.
   - Pain control with fentanyl
   - Social work consult when awake
   - Obtain further history when able
   # Opioid dependence
   Continue methadone at last known dose (called [**Hospital 10552**] clinic but
   no-one on call today ([**Telephone/Fax (1) 10559**]).
   - Maintain her on 15mg q8h IV (on 70 mg PO QD according to last
   discharge summary)
   # DM/Hypoglycmia
   Blood glucose normal. Hypoglycemic events and past elevated insulin and
   C-peptide, although not strikingly high. Patients Hb A1c was 5.
   Consider insulinoma and other DDx.
   -ISS (for dextrose also)
 glucagon less likely to be helpful.
   # Acute Kidney Injury
   Continues to improve with fluid.  Received and should continue to
   receive pre/post-treatment with bicarb/Mucomyst if CT with contrast.
   - Trend Cr
   - Avoid nephrotoxins, renally dose medications
   # FEN: IVF prn, replete electrolytes, replete free water; OG tube in;
   currently NPO as holding tube feeds for high residuals
   # Prophylaxis: Pneumoboots when able; No prophylaxis at this time given
   elevated INR and also ongoing coagulopathy
   # Access:
   - Double Lumen midline placed [**1-18**]; will need to be removed [**1-21**]
   - Arterial Line placed [**1-12**]; will need to remove given fungemia
   - 20 Gauge placed [**1-13**]
   # Communication: Patient; patient
s sister [**Name (NI) 142**] is HCP ([**Telephone/Fax (1) 10512**]);
   [**Doctor First Name 2778**] is [**First Name11 (Name Pattern1) 142**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] (cell [**Telephone/Fax (1) 10591**]). Patient
s family may come
   in
   # Code:  Full (discussed with patient
s HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-1-13**] 05:06 PM
   Midline - [**2141-1-19**] 08:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-01-20 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Liver failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   500cc BRBPR this AM with increase in HR to 120
   24 Hour Events:
 MIDLINE - START [**2141-1-19**] 08:20 AM
 MULTI LUMEN - STOP [**2141-1-19**] 05:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2141-1-17**] 04:00 PM
   Micafungin - [**2141-1-19**] 12:02 PM
   Metronidazole - [**2141-1-20**] 05:21 AM
   Meropenem - [**2141-1-20**] 08:19 AM
   Vancomycin - [**2141-1-20**] 09:33 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-1-19**] 12:03 PM
   Pantoprazole (Protonix) - [**2141-1-19**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-1-20**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 116 (70 - 116) bpm
   BP: 143/72(92) {85/52(74) - 145/72(95)} mmHg
   RR: 28 (23 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
           Total In:
                                                                  2,182 mL
                                                                  1,750 mL
   PO:
           TF:
                                                                    109 mL
                                                                     80 mL
   IVF:
                                                                  1,663 mL
                                                                    662 mL
   Blood products:
   478 mL
   Total out:
                                                                  4,145 mL
                                                                  2,270 mL
   Urine:
                                                                  3,395 mL
                                                                  1,970 mL
   NG:
                                                                    150 mL
   Stool:
                                                                    400 mL
   Drains:
                                                                    200 mL
   Balance:
                                                                 -1,963 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.48/57/134/38/16
   Ve: 12.7 L/min
   PaO2 / FiO2: 191
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended, abd wall pitting edema
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   25 K/uL
   218 mg/dL
   0.3 mg/dL
   38 mEq/L
   4.1 mEq/L
   78 mg/dL
   104 mEq/L
   150 mEq/L
   26.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2141-1-18**]  07:08 PM
                             [**2141-1-18**]  08:14 PM
                             [**2141-1-18**]  08:56 PM
                             [**2141-1-18**]  11:11 PM
                             [**2141-1-19**]  04:42 AM
                             [**2141-1-19**]  04:52 AM
                             [**2141-1-19**]  02:46 PM
                             [**2141-1-19**]  07:53 PM
                             [**2141-1-20**]  03:26 AM
                             [**2141-1-20**]  06:32 AM
   WBC
   4.9
   4.2
   4.1
   Hct
   26.6
   25.6
   25.8
   25.4
   26.0
   Plt
   32
   34
   28
   25
   Cr
   0.9
   0.8
   0.6
   0.3
   TCO2
   37
   38
   39
   40
   44
   Glucose
   175
   178
   178
   218
   Other labs: PT / PTT / INR:30.2/34.7/3.0, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:63/174, Alk Phos / T Bili:92/26.7,
   Amylase / Lipase:[**11-17**], Differential-Neuts:71.0 %, Band:5.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:7666 ng/mL, Fibrinogen:159
   mg/dL, Lactic Acid:3.4 mmol/L, Albumin:2.8 g/dL, LDH:861 IU/L, Ca++:8.6
   mg/dL, Mg++:3.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 ASCITES
 ELECTROLYTE & FLUID DISORDER, OTHER
 TOXIC SHOCK SYNDROME (TSS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 COAGULOPATHY
 RASH
   40 yo woman with Child's C cirrhosis in MICU with septic shock with
   persistently elevated lactate, respiratory failure with severe
   hypoxemia.  Has bullous abdominal rash and GPCs growing from the blood.
   Now improved hemodynamically but has ongoing severe hypoxemia and BRBPR
   1. Septic Shock/S. pneumo bacteremia/fungemia
   -Cont vanc/[**Last Name (un) **]/flagyl
   -Cont micafungin for fungemia
   -Now with fevers --. recheck blood cultures
   2. Respiratory failure
   -Ongoing b/l pneumonia and bibasilar collapse
   -On a high FIO2 --> no active reduction in settings given ongoing
   issues
   3. GI Bleed/Blood loss anemia
   -pRBCs, IVF
   -Correct FFP, platelets
   -Hepatology aware
   4. Acute renal failure
   -Cr down again today
   5. Cirrhosis:
   -Tbili now 26 and climbing
   6. Altered MS
   [**Name13 (STitle) 10607**] head unrevealing
   - Could be [**1-24**] hepatic encephalopathy --> will restart lactulose when
   able
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-1-13**] 05:06 PM
   Midline - [**2141-1-19**] 08:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Repeat Hct 18
 hepatology team proceeded earlier t
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2141-1-20**] 17:42 ------
   today to do an EGD where they found bleeding esophageal and gastric
   varices.  Esophageal varices were banded and gastric varix treated with
   glue with at least temporary hemostasis.  Her blood pressure has
   remained stable though her HR has been 100-120.  We have transfused
   pRBCs, FFP, platelets.  New RIJ central placed this evening.
   Meanwhile, her O2 requirement has increased to 1.0, PEEP 18 as she has
   been transfused additional blood products.
   We had a family meeting today with the patient
s sister and
   brother-in-law, who are her closest family memebers.  Discussed with
   her that she now has multiorgan failure superimposed on her worsening
   liver function and rising bilirubin.  Her prognosis is poor at this
   point, particularly if she rebleeds.  Her code status was changed to
   DNR/DNI.
   Pt is critically ill.  Time spent 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2141-1-20**] 19:41 ------

2141-01-21 09:50:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: variceal bleed, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2141-1-20**] 11:00 AM
 Continued bleeding
 6u pRBC, 7 FFP, 2 plt
 Levophed restarted
 FEVER - 102.7
F - [**2141-1-20**] 11:00 AM
 PanCx
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Micafungin - [**2141-1-19**] 12:02 PM
   Vancomycin - [**2141-1-20**] 08:07 PM
   Metronidazole - [**2141-1-20**] 09:42 PM
   Meropenem - [**2141-1-21**] 07:56 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2141-1-20**] 01:27 PM
   Pantoprazole (Protonix) - [**2141-1-20**] 10:20 PM
   Furosemide (Lasix) - [**2141-1-21**] 03:11 AM
   Methadone Hydrochloride - [**2141-1-21**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2141-1-21**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.2
C (97.2
   HR: 92 (85 - 117) bpm
   BP: 86/45(62) {86/45(62) - 175/111(122)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
   CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  6,179 mL
                                                                  2,147 mL
   PO:
   TF:
                                                                     80 mL
   IVF:
                                                                  2,349 mL
                                                                    763 mL
   Blood products:
                                                                  3,220 mL
                                                                  1,384 mL
   Total out:
                                                                  7,080 mL
                                                                  1,280 mL
   Urine:
                                                                  3,980 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -901 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.51/49/175/33/14
   Ve: 9.2 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Distended
   Skin:  Cool, Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   65 K/uL
   174 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.2 mEq/L
   68 mg/dL
   109 mEq/L
   155 mEq/L
   20.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2141-1-20**]  03:26 AM
                             [**2141-1-20**]  06:32 AM
                             [**2141-1-20**]  09:40 AM
                             [**2141-1-20**]  02:52 PM
                             [**2141-1-20**]  03:17 PM
                             [**2141-1-20**]  03:50 PM
                             [**2141-1-20**]  06:55 PM
                             [**2141-1-21**]  01:00 AM
                             [**2141-1-21**]  03:30 AM
                             [**2141-1-21**]  03:38 AM
   WBC
   4.1
   10.3
   15.3
   Hct
   26.0
   18.6
   26.3
   19.8
   20.2
   Plt
   25
   97
   45
   65
   Cr
   0.3
   0.5
   0.6
   0.6
   TCO2
   44
   38
   40
   40
   Glucose
   [**Telephone/Fax (3) 10644**]74
   Other labs: PT / PTT / INR:28.7/42.5/2.8, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:38/121, Alk Phos / T Bili:49/27.2,
   Amylase / Lipase:[**11-17**], Differential-Neuts:71.0 %, Band:5.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:7666 ng/mL, Fibrinogen:159
   mg/dL, Lactic Acid:7.6 mmol/L, Albumin:2.7 g/dL, LDH:756 IU/L, Ca++:8.8
   mg/dL, Mg++:2.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   40F Child's C cirrhosis in MICU with septic shock persistent variceal
   bleed s/p banding and glue.
   1. Septic Shock/S. pneumo bacteremia/fungemia
   -Cont vanc/[**Last Name (un) **]/flagyl
   -Cont micafungin for fungemia
   -Spiked fever, pan cultured
   2. Respiratory failure
   -Ongoing b/l pneumonia
   -On a high FIO2 --> no active reduction in settings given ongoing
   issues
   3. GI Bleed/Blood loss anemia
   -continues to actively bleed requiring significant ongoing support with
   blood products
   -Correct FFP as able, platelets
   -Hepatology following closely
   -TIPS possible intervention given gastric varices.  However given
   global picture might not offer much benefit
   -need to discuss goals of care with family
   4. Cirrhosis:
   -Tbili cont climb
   5. Coagulopathy
   - DIC plus underlying synthetic issues
   -INR not bumping with sig FFP transfusion
   -resend DIC panel
   6. Altered MS
   [**Name13 (STitle) 10607**] head unrevealing
   - Could be [**1-24**] hepatic encephalopathy --> restart lactulose when able
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-1-13**] 05:06 PM
   Midline - [**2141-1-19**] 08:20 AM
   Multi Lumen - [**2141-1-20**] 11:36 PM
   18 Gauge - [**2141-1-21**] 08:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2141-01-22 09:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: variceal bleed, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-1-22**] 04:49 AM
 Received 7 pRBC, 2 FFP, 1 plt, cryo
 Episode of hypotension yesterday requiring pressors for several
   hours.  Able to wean them off after resolved fluid boluses
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfonamides
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   Unknown;
   Last dose of Antibiotics:
   Micafungin - [**2141-1-21**] 11:56 AM
   Metronidazole - [**2141-1-22**] 05:40 AM
   Meropenem - [**2141-1-22**] 08:06 AM
   Vancomycin - [**2141-1-22**] 09:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-1-21**] 06:21 PM
   Methadone Hydrochloride - [**2141-1-22**] 03:33 AM
   Fentanyl - [**2141-1-22**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-22**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.2
   HR: 65 (64 - 87) bpm
   BP: 111/50(69) {96/46(65) - 137/85(95)} mmHg
   RR: 21 (0 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 108 kg
   Height: 63 Inch
   CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  8,187 mL
                                                                  2,617 mL
   PO:
   TF:
   IVF:
                                                                  4,581 mL
                                                                  2,115 mL
   Blood products:
                                                                  3,606 mL
                                                                    502 mL
   Total out:
                                                                  3,970 mL
                                                                    915 mL
   Urine:
                                                                  3,370 mL
                                                                    615 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  4,217 mL
                                                                  1,702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   PIP: 45 cmH2O
   Plateau: 36 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 91%
   ABG: 7.52/46/59/38/12
   Ve: 11.1 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   29 K/uL
   298 mg/dL
   0.4 mg/dL
   38 mEq/L
   4.1 mEq/L
   58 mg/dL
   107 mEq/L
   154 mEq/L
   23.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2141-1-20**]  06:55 PM
                             [**2141-1-21**]  01:00 AM
                             [**2141-1-21**]  03:30 AM
                             [**2141-1-21**]  03:38 AM
                             [**2141-1-21**]  09:56 AM
                             [**2141-1-21**]  03:12 PM
                             [**2141-1-21**]  09:40 PM
                             [**2141-1-22**]  03:54 AM
                             [**2141-1-22**]  04:05 AM
                             [**2141-1-22**]  06:15 AM
   WBC
   10.3
   15.3
   13.1
   6.2
   4.8
   5.4
   Hct
   19.8
   20.2
   21.1
   22.6
   19.9
   23.4
   Plt
   45
   65
   46
   23
   18
   29
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   TCO2
   40
   40
   40
   39
   Glucose
   176
   174
   204
   281
   298
   Other labs: PT / PTT / INR:27.3/36.7/2.7, CK / CKMB /
   Troponin-T:317/19/<0.01, ALT / AST:59/180, Alk Phos / T Bili:56/37.1,
   Amylase / Lipase:[**11-17**], Differential-Neuts:71.0 %, Band:5.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:7666 ng/mL, Fibrinogen:138
   mg/dL, Lactic Acid:5.8 mmol/L, Albumin:2.9 g/dL, LDH:761 IU/L, Ca++:9.3
   mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   40F HCV cirrhosis, sepsis, respiratory failure, DIC, persistent gastric
   variceal bleed s/p banding (esophageal) and dermabond (gastric).
   # GI Bleed/Blood loss anemia
   -continues to actively bleed requiring significant ongoing support with
   blood products
 2.5L per rectum over last 24hrs
   -INR refractory to correction despite sig FFP
   -does bump to plt transfusions
   -Hepatology following closely
 not candidate for TIPS given MELD 29
   -embolization discussed with IR
 not candidate b/c of high likelihood
   of mortality
   -cont supportive care following plt, coags, electrolytes closely given
   large volume transfusion
   -need to discuss goals of care with family since no definitive
   intervention possible and likelihood of stopping on its own given DIC
   is low
   # Sepsis
   -S. pneumo bacteremia
   -Cont vanc/[**Last Name (un) **]/flagyl
   -Afebrile x 24hrs
   -Off pressors
   # Fungemia
   -BCx x 2 sets + yeast [**1-16**]
   -Negative ophtho evaluation on
   -Micafungin pending cx/sensitivies
   -ID following
   # Respiratory failure
   -b/l pneumonia
   -pleural effusions
   -ARDS based on P/F ratio, b/l infiltrates.  Supported by poor
   compliance, high PEEP requirement
   -6-8cc/kg target vent per ARDSnet
   # Cirrhosis:
   -Tbili continues to climb
   -MELD score 29
   # Coagulopathy
   - DIC plus underlying synthetic issues
   -INR elevation refractory to correction
   # Altered MS
   [**Name13 (STitle) 10607**] head unrevealing
   - Could be [**1-24**] hepatic encephalopathy --> restart lactulose when able
   - difficult to follow given sedation requirements
 reassess during
   daily wake up.
   # Goals of Care
   Need to continue discussion with family regarding goals of care.
   Patient currently intubated x 10 days. Will need to discuss PEG, trach
   as potential next steps.
   - Family meeting
   # Metabolic alkalosis
   #Opioid dependence
   # Hypernatremia
   -fH20 repletion
   # Rib Fractures/Trauma
   -etiology unknown
   -need to assess for hx abuse when pt able to communicate
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-1-13**] 05:06 PM
   Midline - [**2141-1-19**] 08:20 AM
   Multi Lumen - [**2141-1-20**] 11:36 PM
   18 Gauge - [**2141-1-21**] 08:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 75 minutes
   Patient is critically ill